### PR TITLE
[Merged by Bors] - feat(RingTheory): Order of vanishing in a discrete valuation ring

### PR DESCRIPTION
**Pull request by Raph-DG**
In this PR we develop some API for working with the order of vanishing in a discrete valuation ring.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/DiscreteValuationRing/Basic.lean [hunk 1]
```diff
@@ -338,6 +338,33 @@ theorem eq_unit_mul_pow_irreducible {x : R} (hx : x ≠ 0) {ϖ : R} (hirr : Irre
...
+  obtain ⟨n2, u2, h2⟩ := IsDiscreteValuationRing.eq_unit_mul_pow_irreducible x2nez hϖ
+  simp only [IsFractionRing.mk'_eq_div, map_mul, map_pow, h2]
+  use (n1 : ℤ) - (n2 : ℤ)
+  use (u1 * u2⁻¹)
+  simp only [Units.val_mul, map_mul, map_units_inv]
+  field_simp
+  rw[← zpow_natCast, ← zpow_natCast, Field.div_eq_mul_inv, ← @zpow_neg, ← zpow_add₀]
+  · rfl
+  · exact IsFractionRing.to_map_ne_zero_of_mem_nonZeroDivisors <|
+      mem_nonZeroDivisors_of_ne_zero <| Irreducible.ne_zero hϖ
```
Comment (erdOne) [inline Mathlib/RingTheory/DiscreteValuationRing/Basic.lean]: I also needed this somewhere else. The proof is something like
```
theorem div_smul_div_comm {G K : Type*}
    [Group G] [Field K] [DistribMulAction G K] [IsScalarTower G K K]
    (g h : G) (a b : K) (hb : b ≠ 0) :
    (g / h) • (a / b) = (g • a) / (h • b) := by
  rw [eq_div_iff_mul_eq (ne_of_apply_ne (h⁻¹ • ·) (by simpa)), smul_mul_smul_comm]
  simp [hb]

lemma IsDiscreteValuationRing.exists_units_eq_smul_zpow_of_irreducible
    {R K : Type*} [CommRing R] [IsDomain R] [IsDiscreteValuationRing R]
    [Field K] [Algebra R K] [IsFractionRing R K] {ϖ : R} (hϖ : Irreducible ϖ) (x : K) (hx : x ≠ 0) :
    ∃ (n : ℤ) (u : Rˣ), x = u • algebraMap R K ϖ ^ n := by
  obtain ⟨x, y, hy, rfl⟩ := IsFractionRing.div_surjective (A := R) x
  obtain ⟨n, u, rfl⟩ := eq_unit_mul_pow_irreducible (x := x) (by simp_all) hϖ
  obtain ⟨m, v, rfl⟩ := eq_unit_mul_pow_irreducible (by simpa using hy) hϖ
  have hϖ' : algebraMap R K ϖ ≠ 0 := by simpa using hϖ.ne_zero
  refine ⟨n - m, u / v, ?_⟩
  simp [hϖ', zpow_sub₀, div_smul_div_comm, Units.smul_def u, Units.smul_def v, Algebra.smul_def]
```

File: Mathlib/RingTheory/OrderOfVanishing/Properties.lean [hunk 2]
```diff
@@ -0,0 +1,406 @@
...
+Authors: Raphael Douglas Giles
+-/
+import Mathlib.RingTheory.KrullDimension.NonZeroDivisors
+import Mathlib.RingTheory.Length
+import Mathlib.RingTheory.OrderOfVanishing.Basic
+import Mathlib.Algebra.Lie.OfAssociative
+import Mathlib.Order.CompletePartialOrder
+import Mathlib.RingTheory.DiscreteValuationRing.Basic
+import Mathlib.Topology.Instances.Nat
+import Mathlib.Topology.MetricSpace.Isometry
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Properties.lean]: Can you make sure if all these imports are actually necessary, for example `Mathlib.Algebra.Lie.OfAssociative` and `Mathlib.Order.CompletePartialOrder` are common false positives of `#min_imports`.

File: Mathlib/RingTheory/OrderOfVanishing/Properties.lean [hunk 3]
```diff
@@ -0,0 +1,406 @@
...
+  Nat.cast_withZero_mul_int_strictMono.monotone
+
+/--
+The canonical monoid with zero hom from `WithZero (Multiplicative ℕ)` to
+`WithZero (Multiplicative ℤ)` is injective
+-/
+lemma Nat.cast_withZero_mul_int_injective : Function.Injective <|
+    (WithZero.map' (AddMonoidHom.toMultiplicative (Nat.castAddMonoidHom ℤ))) := by
+  apply WithZero.map'_injective
+  exact Isometry.injective fun x1 ↦ congrFun rfl
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Properties.lean]: I am hoping that these are not necessary. Even if they are, they should be moved in a different file.

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 4]
```diff
@@ -0,0 +1,406 @@
...
+variable [IsNoetherianRing R] [Ring.KrullDimLE 1 R]
+variable {K : Type*} [Field K] [Algebra R K] [IsFractionRing R K]
+
+/--
+In a Noetherian ring of krull dimension less than or equal to `1`, the order of vanishing
+of a non zero divisor `a` is not `⊤`.
+-/
+lemma ord_ne_top (a : R) (ha : a ∈ nonZeroDivisors R) : ord R a ≠ ⊤ := by
+  simp [isFiniteLength_quotient_span_singleton R ha, Ring.ord, Module.length_ne_top_iff]
+
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: It might be useful to add
```
open scoped nonZeroDivisors

noncomputable
def ordMonoidHom : R⁰ →* Multiplicative ℕ where
  toFun x := .ofAdd <| (Ring.ord R x).untop (ord_ne_top _ x.2)
  map_one' := by simp
  map_mul' x y := by
    rw [← ofAdd_add]
    congr 1
    apply WithTop.coe_injective
    simp [ord_mul]

lemma ord_eq_ordMonoidHom (x : R⁰) : Ring.ord R x = (ordMonoidHom x).toAdd := by
  change _ = WithTop.some ((Ring.ord R x).untop (ord_ne_top _ x.2))
  simp

lemma ordMonoidWithZeroHom_eq_ordMonoidHom [Nontrivial R] (x : R⁰) :
    ordMonoidWithZeroHom R x = .coe (.ofAdd ((ordMonoidHom x).toAdd : ℤ)) := by
  simp only [SetLike.coe_mem, ordMonoidWithZeroHom_eq_ord, ordMonoidHom, MonoidHom.coe_mk,
    OneHom.coe_mk, toAdd_ofAdd]
  generalize_proofs ha
  generalize ord R x.1 = a at *
  induction a
  · simp at ha
  · rfl
```

File: Mathlib/RingTheory/OrderOfVanishing/Properties.lean [hunk 5]
```diff
@@ -0,0 +1,406 @@
...
+/--
+Analogue of `ord_ne_top` for `ordMonoidWithZeroHom`.
+-/
+lemma ordMonoidWithZeroHom_ne_zero [Nontrivial R] (a : R) (ha : a ∈ nonZeroDivisors R) :
+    ordMonoidWithZeroHom R a ≠ 0 := by
+  have := ord_ne_top a ha
+  rw [WithTop.ne_top_iff_exists] at this
+  obtain ⟨a', ha'⟩ := this
+  simp only [ha, ordMonoidWithZeroHom_eq_ord, ← ha', ENat.some_eq_coe, ne_eq]
+  exact not_eq_of_beq_eq_false rfl
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Properties.lean]: If you add the `ordMonoidHom` then this is just
```suggestion
  lift a to R⁰ using ha
  simp [ordMonoidWithZeroHom_eq_ordMonoidHom, -ordMonoidWithZeroHom_eq_ord]
```

File: Mathlib/RingTheory/OrderOfVanishing/Properties.lean [hunk 6]
```diff
@@ -0,0 +1,406 @@
...
+  obtain ⟨b', hb'⟩ := WithTop.ne_top_iff_exists.mp <| ord_ne_top b hb
+  rw [← ha', ← hb']
+  constructor
+  · exact fun h ↦ Nat.cast_withZero_mul_int_mono (WithZero.coe_le_coe.mpr (ENat.coe_le_coe.mp h))
+  · intro h
+    have := (StrictMono.le_iff_le Nat.cast_withZero_mul_int_strictMono
+            (a := WithZero.coe (a' : Multiplicative ℕ))
+            (b := WithZero.coe (b' : Multiplicative ℕ))).mp h
+    rw [WithTop.coe_le_coe]
+    rwa [WithZero.coe_le_coe] at this
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Properties.lean]: Similarly, this could be 
```suggestion
  lift a to R⁰ using ha
  lift b to R⁰ using hb
  simp [ordMonoidWithZeroHom_eq_ordMonoidHom, ord_eq_ordMonoidHom, -ordMonoidWithZeroHom_eq_ord]
```

File: Mathlib/RingTheory/OrderOfVanishing/Properties.lean [hunk 7]
```diff
@@ -0,0 +1,406 @@
...
+-/
+lemma ord_le_smul {S : Type*} [CommRing S] [Algebra S R] (a : S) (x : R) :
+    ord R x ≤ ord R (a • x) := by
+  simp only [ord]
+  suffices Ideal.span {a • x} ≤ Ideal.span {x} by
+    let g : (R ⧸ Ideal.span {a • x}) →ₗ[R] (R ⧸ Ideal.span {x}) := Submodule.factor this
+    refine Module.length_le_of_surjective (Submodule.factor this) (Submodule.factor_surjective this)
+  rw [@Ideal.span_singleton_le_span_singleton]
+  rw [@Algebra.smul_def']
+  exact Dvd.intro_left (Algebra.algebraMap a) rfl
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Properties.lean]: I think what you want to prove is `ord R a <= ord R (a * b)`.

File: Mathlib/RingTheory/OrderOfVanishing/Properties.lean [hunk 8]
```diff
@@ -0,0 +1,406 @@
...
+/--
+The order of vanishing of a unit is `0`.
+-/
+@[simp]
+lemma ord_of_isUnit (x : R) (hx : IsUnit x) : ord R x = 0 := by
+  obtain ⟨x, rfl⟩ := hx
+  have : ord R ↑(x⁻¹) + ord R x = 0 := by
+    rw [← ord_mul, Units.inv_mul, ord_one]
+    exact IsUnit.mem_nonZeroDivisors (Units.isUnit x)
+  exact eq_zero_of_add_left this
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Properties.lean]:
```suggestion
  simpa using ord_smul x hx (1 : R)
```

File: Mathlib/RingTheory/OrderOfVanishing/Properties.lean [hunk 9]
```diff
@@ -0,0 +1,406 @@
...
+
+section IsDiscreteValuationRing
+
+variable [IsDomain R] [IsDiscreteValuationRing R]
+/--
+In a discrete valuation ring, the order of vanishing of an irreducible element is `1`.
+-/
+theorem ord_irreducible (ϖ : R) (hϖ : Irreducible ϖ) : ord R ϖ = 1 := by
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Properties.lean]: The right thing to do is probably something like
```
def Submodule.orderIsoOfAlgebraMapSurjective
    {R S M : Type*} [CommRing R] [Ring S] [AddCommGroup M]
    [Algebra R S] [Module R M] [Module S M] [IsScalarTower R S M]
    (h : Function.Surjective (algebraMap R S)) : Submodule S M ≃o Submodule R M where
  toFun N := N.restrictScalars R
  invFun N := ⟨N.toAddSubmonoid, by simpa [h.forall] using N.2⟩
  left_inv _ := rfl
  right_inv _ := rfl
  map_rel_iff' := .rfl

lemma isSimpleModule_iff_isSimpleModule_of_algebraMap_surjective
    {R S M : Type*} [CommRing R] [Ring S] [AddCommGroup M]
    [Algebra R S] [Module R M] [Module S M] [IsScalarTower R S M]
    (h : Function.Surjective (algebraMap R S)) : IsSimpleModule R M ↔ IsSimpleModule S M := by
  rw [isSimpleModule_iff, isSimpleModule_iff,
    (Submodule.orderIsoOfAlgebraMapSurjective h).isSimpleOrder_iff]

variable [IsDomain R] [IsDiscreteValuationRing R]
/--
In a discrete valuation ring, the order of vanishing of an irreducible element is `1`.
-/
theorem ord_irreducible (ϖ : R) (hϖ : Irreducible ϖ) : ord R ϖ = 1 := by
  rw [Ring.ord, Module.length_eq_one_iff]
  have : (Ideal.span {ϖ}).IsMaximal :=
    PrincipalIdealRing.isMaximal_of_irreducible hϖ
  rw [isSimpleModule_iff_isSimpleModule_of_algebraMap_surjective (S := R ⧸ Ideal.span {ϖ})
    Ideal.Quotient.mk_surjective]
  letI := Ideal.Quotient.field (Ideal.span {ϖ})
  infer_instance
```

Comment (erdOne) [reply Mathlib/RingTheory/OrderOfVanishing/Properties.lean]: And once you have this, you should prove that
```
example : ord R = IsDiscreteValuationRing.addVal R := by sorry
```
And the rest of this section should follow easily.

File: Mathlib/RingTheory/DiscreteValuationRing/Basic.lean (hunk 1 above)
Comment (Raph-DG) [reply Mathlib/RingTheory/DiscreteValuationRing/Basic.lean]: Thanks, that's really nice! I can't think of a good place to put div_smul_div_comm, right now I've just put it in the same file but I'm not sure that's the right thing to do. I could imagine it being in Field.Basic, but there aren't enough imports there.

File: Mathlib/RingTheory/OrderOfVanishing/Properties.lean (hunk 5 above)
Comment (Raph-DG) [reply Mathlib/RingTheory/OrderOfVanishing/Properties.lean]: Thanks! This is very nice, I agree this makes things much more usable

File: Mathlib/RingTheory/OrderOfVanishing/Properties.lean (hunk 9 above)
Comment (Raph-DG) [reply Mathlib/RingTheory/OrderOfVanishing/Properties.lean]: Thanks for the nice suggestion, this is much cleaner!

File: Mathlib/RingTheory/DiscreteValuationRing/Basic.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/RingTheory/DiscreteValuationRing/Basic.lean]: Perhaps a new file in `Mathlib/Algebra/Field/Action/Basic.lean`?

Comment (erdOne) [reply Mathlib/RingTheory/DiscreteValuationRing/Basic.lean]: And it should be something like
```
import Mathlib.Algebra.Field.Defs
import Mathlib.Algebra.GroupWithZero.Units.Basic
import Mathlib.Algebra.Module.Defs

theorem div_smul_div_comm {G K : Type*}
    [Group G] [DivisionSemiring K] [DistribMulAction G K]
    [IsScalarTower G K K] [SMulCommClass G K K] (g h : G) (a b : K) :
    (g / h) • (a / b) = (g • a) / (h • b) := by
  by_cases hb : b = 0
  · simp [hb]
  rw [eq_div_iff_mul_eq (ne_of_apply_ne (h⁻¹ • ·) (by simpa)), smul_mul_smul_comm]
  simp [hb]
```

Comment (erdOne) [reply Mathlib/RingTheory/DiscreteValuationRing/Basic.lean]: Maybe this instead in `Mathlib.Algebra.GroupWithZero.Action.Basic`.
```
import Mathlib.Algebra.GroupWithZero.Action.Basic

theorem div_smul_div_comm {G K : Type*}
    [Group G] [GroupWithZero K] [MulAction G K]
    [IsScalarTower G K K] [SMulCommClass G K K] (g h : G) (a b : K) :
    (g / h) • (a / b) = (g • a) / (h • b) := by
  have (x : G) : x • (0 : K) = 0 := by simpa using (smul_assoc x (0 : K) (0 : K)).symm
  by_cases hb : b = 0
  · simp [hb, this]
  rw [eq_div_iff_mul_eq (ne_of_apply_ne (h⁻¹ • ·) (by simpa [this])), smul_mul_smul_comm]
  simp [hb]
```

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 10]
```diff
@@ -0,0 +1,388 @@
...
+-/
+@[simp]
+lemma ord_neg (x : R) : ord R (-x) = ord R x:= by
+  simp only [ord]
+  congr 2
+  all_goals exact Ideal.span_singleton_neg x
+
+@[simp]
+lemma ord_mul_of_isUnit (a : R) (h : IsUnit a) (x : R) : ord R (a * x) = ord R x := by
+  rw [ord, ord, Ideal.span_singleton_mul_left_unit h x]
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: Can you add an `Associated` version too? Thanks.

File: Mathlib/RingTheory/OrderOfVanishing/Properties.lean [hunk 11]
```diff
@@ -0,0 +1,388 @@
...
+    simpa [l.algebraMap_eq]
+  apply ordFrac_ge_one_of_ne_zero
+  exact ha
+
+/--
+The analogue of `ord_of_isUnit` for `ordFrac`, saying `ordFrac R (algebraMap R K x) = 1` for some
+unit `x`.
+-/
+lemma ordFrac_of_isUnit (x : R) (hx : IsUnit x) :
+    ordFrac R (algebraMap R K x) = 1 := by
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Properties.lean]: Can you turn this into an iff?
Or perhaps something like `MonoidHom.mker (ordFrac R) = (IsUnit.submonoid R).map (algebraMap R K)`

File: Mathlib/RingTheory/OrderOfVanishing/Properties.lean [hunk 12]
```diff
@@ -0,0 +1,388 @@
...
+    exact Or.inl <| ordFrac_ge_one_of_ne_zero _ this
+  all_goals simp
+
+/--
+In a discrete valuation ring `R` with fraction ring `K`, if `x y : K` and
+`ordFrac R x = ordFrac R y`, then `x` must only differ from `y` by a unit of `R`.
+-/
+theorem associated_of_ordFrac_eq [IsDiscreteValuationRing R] (x y : K) (hx : x ≠ 0) (hy : y ≠ 0)
+    (h : ordFrac R x = ordFrac R y) : ∃ u : Rˣ, u • x = y := by
+  obtain ⟨ϖ, hϖ⟩ := IsDiscreteValuationRing.exists_irreducible R
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Properties.lean]: Then the proof of this probably should be just `ordFrac R (x/y) = 1` so it is the image of a unit.

Also you probably don't need `x ≠ 0` nor `y ≠ 0` here because if `y = 0` then `x = 0` then `u = 1` suffices.

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 13]
```diff
@@ -0,0 +1,388 @@
...
+
+
+/--
+For `x y : R`, if `x + y ≠ 0` then `min (ordFrac R x) (ordFrac R y) ≤ ordFrac R (x + y)`. The
+condition that `x + y ≠ 0` is used to guarantee that all the elements we're taking `ordFrac` of
+are nonzero, meaning none of them will be `0` in `ℤᵐ⁰`. This allows us to use `ord_add` (which
+uses the ordering on `ℕ∞`), since these orders correspond on non `⊤` elements.
+-/
+theorem ordFrac_add [IsDiscreteValuationRing R] (x y : K) (h : x + y ≠ 0) :
+    min (Ring.ordFrac R x) (Ring.ordFrac R y) ≤ Ring.ordFrac R (x + y) := by
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: I think we should just link `Ring.ordFrac` to `IsDedekindDomain.HeightOneSpectrum.valuation` and use the result there.

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 14]
```diff
@@ -0,0 +1,388 @@
...
+  rw [Ring.ord, Module.length_eq_one_iff]
+  have : (Ideal.span {ϖ}).IsMaximal :=
+    PrincipalIdealRing.isMaximal_of_irreducible hϖ
+  rw [isSimpleModule_iff_isSimpleModule_of_algebraMap_surjective (S := R ⧸ Ideal.span {ϖ})
+    Ideal.Quotient.mk_surjective]
+  letI := Ideal.Quotient.field (Ideal.span {ϖ})
+  infer_instance
+
+variable (R) in
+lemma IsDiscreteValutationRing.not_krullDimLE_zero : ¬ KrullDimLE 0 R := by
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: This should be first stated in terms of `0 < ringKrullDim R`, and the proof should be `IsDomain + ringKrullDim <= 0 => IsField` and `IsDiscreteValuationRing.not_isField`.
Also this shouldn't be here.

File: Mathlib/RingTheory/OrderOfVanishing/Properties.lean [hunk 15]
```diff
@@ -0,0 +1,388 @@
...
+    [Algebra R S] [Module R M] [Module S M] [IsScalarTower R S M]
+    (h : Function.Surjective (algebraMap R S)) : IsSimpleModule R M ↔ IsSimpleModule S M := by
+  rw [isSimpleModule_iff, isSimpleModule_iff,
+    (Submodule.orderIsoOfAlgebraMapSurjective h).isSimpleOrder_iff]
+
+variable [IsDomain R] [IsDiscreteValuationRing R]
+/--
+In a discrete valuation ring, the order of vanishing of an irreducible element is `1`.
+-/
+theorem ord_irreducible (ϖ : R) (hϖ : Irreducible ϖ) : ord R ϖ = 1 := by
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Properties.lean]:
```suggestion
theorem ord_of_irreducible (ϖ : R) (hϖ : Irreducible ϖ) : ord R ϖ = 1 := by
```

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 16]
```diff
@@ -0,0 +1,388 @@
...
+  left_inv _ := rfl
+  right_inv _ := rfl
+  map_rel_iff' := .rfl
+
+lemma isSimpleModule_iff_isSimpleModule_of_algebraMap_surjective
+    {R S M : Type*} [CommRing R] [Ring S] [AddCommGroup M]
+    [Algebra R S] [Module R M] [Module S M] [IsScalarTower R S M]
+    (h : Function.Surjective (algebraMap R S)) : IsSimpleModule R M ↔ IsSimpleModule S M := by
+  rw [isSimpleModule_iff, isSimpleModule_iff,
+    (Submodule.orderIsoOfAlgebraMapSurjective h).isSimpleOrder_iff]
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: These shouldn't be here.

File: Mathlib/RingTheory/OrderOfVanishing/Properties.lean [hunk 17]
```diff
@@ -0,0 +1,388 @@
...
+  have := isFiniteLength_quotient_span_singleton R (x := x) (by simp[hx])
+  exact Module.length_ne_top_iff.mpr this
+
+/--
+For `R` an `S` algebra (with a corresponding compatible action on `K`, the field of fractions
+of `R`), for `f : K` and `a : S`, we have that `ordFrac R f ≤ ordFrac R (a • f)` as long as
+`algebraMap S R a ≠ 0`.
+-/
+lemma ordFrac_le_smul {S : Type*} [CommRing S] [Algebra S R] [Algebra S K]
+    [l : IsScalarTower S R K] (a : S) (ha : algebraMap S R a ≠ 0) (f : K) :
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Properties.lean]:
```suggestion
    [IsScalarTower S R K] (a : S) (ha : algebraMap S R a ≠ 0) (f : K) :
```

File: Mathlib/RingTheory/OrderOfVanishing/Properties.lean [hunk 18]
```diff
@@ -0,0 +1,388 @@
...
+    Ring.ordFrac R f ≤ Ring.ordFrac R (a • f) := by
+  by_cases j : f = 0
+  · simp[j]
+  suffices (ordFrac R) f ≤ (ordFrac R) ((algebraMap S K) a • f) by simp_all only [ne_eq,
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Properties.lean]:
```suggestion
  suffices ordFrac R f ≤ ordFrac R (algebraMap S K a • f) by simp_all only [ne_eq,
```

**Review by erdOne — COMMENTED** [review]
Also `Basic.lean` and `Properties.lean` are not really descriptive names. It would be hard to guess which file to look in when one needs som result about `Ring.ord`. Perhaps a sensible split is `Basic.lean` and `Noetherian.lean` where the latter contains everything assuming `IsNoetherianRing` or stronger (e.g. DVR).

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 19]
```diff
@@ -0,0 +1,436 @@
...
+for an irreducible element `ϖ`. This is the analogue of `ord_irreducible` for `ordFrac`.
+-/
+lemma ordFrac_irreducible [IsDiscreteValuationRing R]
+    (ϖ : R) (hϖ : Irreducible ϖ) : ordFrac R (algebraMap R K ϖ) = WithZero.exp 1 := by
+  have : ϖ ≠ 0 := Irreducible.ne_zero hϖ
+  simp only [ordFrac_eq_ord R ϖ this, mem_nonZeroDivisors_of_ne_zero this,
+      ordMonoidWithZeroHom_eq_ord, ord_of_irreducible ϖ hϖ]
+  rfl
+
+
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean:163]:
```suggestion

```

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 20]
```diff
@@ -0,0 +1,436 @@
...
+-/
+lemma ord_le_smul {S : Type*} [CommRing S] [Algebra S R] (a : S) (x : R) :
+    ord R x ≤ ord R (a • x) := by simp [Algebra.smul_def, ord_le_mul]
+
+/--
+The order of vanishing of a unit is `0`.
+-/
+@[simp]
+lemma ord_of_isUnit (x : R) (hx : IsUnit x) : ord R x = 0 := by
+  simpa using ord_smul_of_isUnit x hx (1 : R)
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: These doesn't require `IsNoetherianRing` so it shouldn't be in this file.

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 21]
```diff
@@ -0,0 +1,436 @@
...
+
+@[simp]
+lemma ord_mul_of_isUnit_left (a : R) (h : IsUnit a) (x : R) : ord R (a * x) = ord R x := by
+  rw [ord, ord, Ideal.span_singleton_mul_left_unit h x]
+
+@[simp]
+lemma ord_mul_of_isUnit_right (a : R) (h : IsUnit a) (x : R) : ord R (x * a) = ord R x := by
+  rw [ord, ord, Ideal.span_singleton_mul_right_unit h x]
+
+lemma ord_mul_of_associated (x y : R) (h : Associated x y) : ord R x = ord R y := by
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]:
```suggestion
lemma ord_eq_of_associated (x y : R) (h : Associated x y) : ord R x = ord R y := by
```

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 22]
```diff
@@ -0,0 +1,436 @@
...
+lemma ord_smul_of_isUnit {S : Type*} [CommRing S] [Algebra S R]
+    (a : S) (h : IsUnit a) (x : R) : ord R (a • x) = ord R x := by
+  rw [Algebra.smul_def a x]
+  exact ord_mul_of_isUnit_left ((algebraMap S R) a) (RingHom.isUnit_map (algebraMap S R) h) x
+
+/-
+Simple lemma saying `ord (x) ≤ ord (a * x)`. One should note that the order here
+is the order on `ℕ∞` where `∞` is a top element.
+-/
+lemma ord_le_mul (a : R) (x : R) : ord R x ≤ ord R (a * x) := by
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: I think `ord_le_ord_mul` or just `le_ord_mul` is more idiomatic here.

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 23]
```diff
@@ -0,0 +1,436 @@
...
+lemma ord_of_isUnit (x : R) (hx : IsUnit x) : ord R x = 0 := by
+  simpa using ord_smul_of_isUnit x hx (1 : R)
+
+section IsDiscreteValuationRing
+
+variable [IsDomain R] [IsDiscreteValuationRing R]
+/--
+In a discrete valuation ring, the order of vanishing of an irreducible element is `1`.
+-/
+theorem ord_of_irreducible (ϖ : R) (hϖ : Irreducible ϖ) : ord R ϖ = 1 := by
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: This only needs `IsPrincipalIdealRing`.

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 24]
```diff
@@ -0,0 +1,436 @@
...
+  rw [Ring.ord, Module.length_eq_one_iff]
+  have : (Ideal.span {ϖ}).IsMaximal :=
+    PrincipalIdealRing.isMaximal_of_irreducible hϖ
+  rw [isSimpleModule_iff_isSimpleModule_of_algebraMap_surjective (S := R ⧸ Ideal.span {ϖ})
+    Ideal.Quotient.mk_surjective]
+  letI := Ideal.Quotient.field (Ideal.span {ϖ})
+  infer_instance
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: `[I.IsMaximal] : IsSimpleModule R (R ⧸ I)` should be its own instance.

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean (hunk 14 above)
Comment (erdOne) [reply Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: Or rather you should prove the following first
```lean
lemma IsDiscreteValutationRing.ringKrullDim_eq_one : ringKrullDim R = 1 := by
  refine eq_of_le_of_not_lt (krullDimLE_iff (n := 1).mp ?_) fun h ↦ ?_
  · exact krullDimLE_one_iff_of_isPrime_bot.mpr fun I hI hI' ↦ hI'.isMaximal hI
  · have : KrullDimLE 0 R := krullDimLE_iff.mpr (WithBot.lt_add_one_iff.mp h)
    exact IsDiscreteValuationRing.not_isField R KrullDimLE.isField_of_isDomain
```
And I think this should go in `Mathlib.RingTheory.DiscreteValuationRing.Basic`.

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 25]
```diff
@@ -0,0 +1,436 @@
...
+  have : ¬ ringKrullDim R ≤ 0 := by
+    rwa [Ring.krullDimLE_iff] at this
+  simp_all
+
+lemma ord_eq_addVal (x : R) : ord R x = IsDiscreteValuationRing.addVal R x := by
+  by_cases hx : x = 0
+  · simp only [ord, hx, AddValuation.map_zero]
+    subst hx
+    by_contra!
+    rw [Module.length_ne_top_iff, isFiniteLength_iff_isNoetherian_isArtinian] at this
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean:94]: We should probably have `ord R 0 = Module.length R R` as a separate lemma.

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 26]
```diff
@@ -0,0 +1,436 @@
...
+  rw [ord_mul, ord_pow, ord_of_irreducible ϖ hϖ]
+  · simp [IsDiscreteValuationRing.addVal_uniformizer hϖ]
+  all_goals simp_all [Irreducible.ne_zero hϖ]
+
+/--
+In a discrete valuation ring `R`, if the order of vansihing of `x` and `y` is
+the same then `x` and `y` must be associated.
+-/
+lemma associated_of_ord_eq (x y : R) (hx : x ≠ 0) (hy : y ≠ 0)
+    (h : ord R x = ord R y) : Associated x y := by
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: 1. `x ≠ 0` should not be necessary because `x = 0` implies `ord R y = infty` which should imply `y = 0`.
2. This should be turned into an iff.
3. This should be proved first for `IsDiscreteValuationRing.addVal`. There are now two identical ways to spell the same thing: `ord R x` or `IsDiscreteValuationRing.addVal R x`, and we should choose a normal form of this. I am guessing we would prefer the latter.

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 27]
```diff
@@ -0,0 +1,436 @@
...
+        (IsDiscreteValuationRing.irreducible_iff_uniformizer ϖ).mp hϖ]
+    rw [IsDedekindDomain.HeightOneSpectrum.intValuation_singleton
+      (IsDiscreteValuationRing.maximalIdeal R) h1 h2]
+  rw [this]
+  have : (IsDedekindDomain.HeightOneSpectrum.valuation K (IsDiscreteValuationRing.maximalIdeal R))
+      ((algebraMap R K) ↑α) = 1 := by
+    rw [@IsDedekindDomain.HeightOneSpectrum.valuation_of_algebraMap]
+    exact IsDedekindDomain.HeightOneSpectrum.intValuation_eq_one_iff.mpr fun a ↦ a α.isUnit
+  rw [this]
+  simp
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: This is 
```lean
theorem ordFrac_eq_inverse_comp_valuation [IsDiscreteValuationRing R] :
    ordFrac R = MonoidWithZero.inverse.comp
      ((IsDiscreteValuationRing.maximalIdeal R).valuation K).toMonoidWithZeroHom := by
  ext a
  by_cases ha : a = 0
  · simp_all
  obtain ⟨x, y, hy, rfl⟩ := IsFractionRing.div_surjective (A := R) a
  simp_all [ordFrac_eq_ord, ord_eq_addVal,
    IsDedekindDomain.HeightOneSpectrum.valuation_of_algebraMap,
    IsDiscreteValuationRing.intValuation_maximalIdeal, WithZero.map'_apply]
  rfl
```
If you add the following missing lemmas
```lean
lemma IsDiscreteValuationRing.intValuation_maximalIdeal
    {R : Type*} [CommRing R] [IsDomain R] [IsDiscreteValuationRing R] (x) :
    (IsDiscreteValuationRing.maximalIdeal R).intValuation x =
      (WithZero.map (.ofAdd ∘ (↑)) (IsDiscreteValuationRing.addVal R x))⁻¹ := by
  by_cases hx : x = 0
  · simp [hx]; rfl
  obtain ⟨ϖ, hϖ⟩ := IsDiscreteValuationRing.exists_irreducible R
  obtain ⟨n, u, rfl⟩ := IsDiscreteValuationRing.eq_unit_mul_pow_irreducible hx hϖ
  have : (IsDiscreteValuationRing.maximalIdeal R).intValuation ↑u = 1 := by simp [maximalIdeal]
  simp [(IsDiscreteValuationRing.maximalIdeal R).intValuation_singleton hϖ.ne_zero
    hϖ.maximalIdeal_eq, hϖ, this]
  rfl

lemma WithZero.map'_apply {α β : Type*} [MulOneClass α] [MulOneClass β] (f : α →* β) (x) :
    WithZero.map' f x = x.map f := by
  cases x <;> simp
```

Comment (erdOne) [reply Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: And then we should also add the applied version
```lean
theorem ordFrac_eq_valuation_inv [IsDiscreteValuationRing R] (x : K) :
    ordFrac R x = ((IsDiscreteValuationRing.maximalIdeal R).valuation K x)⁻¹ := by
  simp [ordFrac_eq_inverse_comp_valuation]
```

Comment (erdOne) [reply Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: And then this should be used to prove the other results here.

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 28]
```diff
@@ -0,0 +1,436 @@
...
+  have := Valuation.map_add (IsDedekindDomain.HeightOneSpectrum.valuation K
+      (IsDiscreteValuationRing.maximalIdeal R)) x y
+  simp_all only [ne_eq, le_sup_iff, MonoidWithZeroHom.coe_comp,
+    MonoidWithZero.coe_inverse, inverse_eq_inv', Valuation.toMonoidWithZeroHom_coe_eq_coe,
+    Function.comp_apply, inf_le_iff]
+  obtain h | h := this
+  · left
+    rwa [inv_le_inv₀ ((Valuation.pos_iff _).mpr hx0) ((Valuation.pos_iff _).mpr h1)]
+  · right
+    rwa [inv_le_inv₀ ((Valuation.pos_iff _).mpr hy0) ((Valuation.pos_iff _).mpr h1)]
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: For example this is 
```suggestion
  simp only [ordFrac_eq_valuation_inv]
  grw [Valuation.map_add, min_inv_inv_le]
  simpa [WithZero.pos_iff_ne_zero]
```
If you add
```
lemma min_inv_inv_le {G₀ : Type*} [Inv G₀] [LinearOrder G₀] {x y : G₀} :
    min x⁻¹ y⁻¹ ≤ (max x y)⁻¹ := by
  cases le_total x y <;> simp_all
```

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean (hunk 20 above)
Comment (Raph-DG) [reply Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: Yeah that's fair. I'll just add it to the basic file, do you think that's fine?

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean (hunk 23 above)
Comment (Raph-DG) [reply Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: Ah of course, good catch! Thanks for that :)

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean (hunk 28 above)
Comment (Raph-DG) [reply Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: Ah ok gotcha, that's very nice - thanks for the suggestion! I'll try and do a refactor like you suggest

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean (hunk 26 above)
Comment (Raph-DG) [reply Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: Yeah I also think its sensible to prefer the latter, I'll make ord_eq_addVal a simp lemma

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean (hunk 28 above)
Comment (Raph-DG) [reply Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: Some of these lemmas seem less convenient to prove using the valuation API, namely mker_ordFrac_eq_units and associated_of_ordFrac_eq seem like we more or less have to replicate the proofs already given here, except IMO the proofs are a little bit less convenient. Should I make these changes? We can also prove the relevant lemmas about IsDedekindDomain.HeightOneSpectrum.valuation in terms of the lemmas here I suppose

**Review by erdOne — COMMENTED** [review]
I have a slight feeling that the docstrings are a little bit too much. Of course documentation is nice, and if I were to choose between too much and too little documentation I would definitely err on the too much side.

But to me, docstrings are only necessary when they provide additional information that is not easily readable from the lemma name or the type signature, for example when a result has a name in the literature, has a mathematically more intuitive statement that is not apparent from the lean translation, some tips when using the result etc.

In you docstring to `ord_pow` for example, "For `x : R` a non zero divisor, `ord R (x^n) = n • ord R x`" is literally the type signature but less concise and less readable and I would tend to claim that this adds little value. the docstrings for `ord_neg` and `ord_smul_of_isUnit` etc might also fall in this category. Such excessive docstrings would be an information overload and obscures the actual important docstrings that the users should read when they want to use the API. On the other hand, I would say that the docstring of `ord_mul'` is quite useful as it is way harder to cross-compare two type signatures than to read one. 

Of course, "easily readable from the lemma name or the type signature" is actually quite subjective as it depends on one's prior knowledge of the library or the mathematics behind it, and ultimately it is up to you to decide if the docstrings are valuable or not. I merely would like to ask you to consider whether you personally find them valuable or not if this question hadn't yet crossed your mind. I am perfectly fine if you prefer keeping all of them in the end.

File: Mathlib/RingTheory/OrderOfVanishing/Basic.lean [hunk 29]
```diff
@@ -122,6 +121,114 @@ theorem ord_mul {a b : R} (hb : b ∈ nonZeroDivisors R) :
...
+
+@[simp]
+lemma ord_mul_of_isUnit_left (a : R) (h : IsUnit a) (x : R) : ord R (a * x) = ord R x := by
+  rw [ord, ord, Ideal.span_singleton_mul_left_unit h x]
+
+@[simp]
+lemma ord_mul_of_isUnit_right (a : R) (h : IsUnit a) (x : R) : ord R (x * a) = ord R x := by
+  rw [ord, ord, Ideal.span_singleton_mul_right_unit h x]
+
+lemma ord_mul_of_associated (x y : R) (h : Associated x y) : ord R x = ord R y := by
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Basic.lean]:
```suggestion
lemma ord_eq_of_associated (x y : R) (h : Associated x y) : ord R x = ord R y := by
```

File: Mathlib/RingTheory/OrderOfVanishing/Basic.lean [hunk 30]
```diff
@@ -122,6 +121,114 @@ theorem ord_mul {a b : R} (hb : b ∈ nonZeroDivisors R) :
...
+  | zero => simp
+  | succ n ih =>
+    rw [pow_succ, ord_mul, ih, succ_nsmul]
+    exact hx
+
+/--
+For `x : R` a non zero divisor, `ord R (-x) = ord R x`.
+-/
+@[simp]
+lemma ord_neg (x : R) : ord R (-x) = ord R x:= by
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Basic.lean]: It is probably easier to prove this via `ord_mul_of_associated`.

File: Mathlib/RingTheory/OrderOfVanishing/Basic.lean [hunk 31]
```diff
@@ -122,6 +121,114 @@ theorem ord_mul {a b : R} (hb : b ∈ nonZeroDivisors R) :
...
+lemma ord_smul_of_isUnit {S : Type*} [CommRing S] [Algebra S R]
+    (a : S) (h : IsUnit a) (x : R) : ord R (a • x) = ord R x := by
+  rw [Algebra.smul_def a x]
+  exact ord_mul_of_isUnit_left ((algebraMap S R) a) (RingHom.isUnit_map (algebraMap S R) h) x
+
+/-
+Simple lemma saying `ord (x) ≤ ord (a * x)`. One should note that the order here
+is the order on `ℕ∞` where `∞` is a top element.
+-/
+lemma ord_le_ord_mul (a : R) (x : R) : ord R x ≤ ord R (a * x) := by
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Basic.lean:180]: We probably want `ord_le_ord_of_dvd` instead (or maybe both if you find this statement particularly useful).

File: Mathlib/RingTheory/OrderOfVanishing/Basic.lean [hunk 32]
```diff
@@ -200,4 +326,5 @@ lemma ordFrac_eq_div (a : nonZeroDivisors R) (b : nonZeroDivisors R) :
       ordMonoidWithZeroHom R a / ordMonoidWithZeroHom R b := by
   simp [ordFrac_eq_ord]
 
+
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Basic.lean]:
```suggestion

```

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 33]
```diff
@@ -0,0 +1,316 @@
...
+      apply Monotone.comp
+      · exact fun _ _ a ↦ a
+      · apply Monotone.comp
+        · simp_all only [ne_eq, WithZero.map'_coe, AddMonoidHom.toMultiplicative_apply_apply,
+          Nat.coe_castAddMonoidHom, ge_iff_le, Nat.mono_cast]
+        · exact fun _ _ a ↦ a
+    · aesop
+  simp only [ord, ne_eq]
+  have := isFiniteLength_quotient_span_singleton R (x := x) (by simp[hx])
+  exact Module.length_ne_top_iff.mpr this
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]:
```suggestion
    1 ≤ ordFrac R (algebraMap R K x) := by
  obtain ⟨m, hm⟩ := ENat.ne_top_iff_exists.mp (ord_ne_top x (by simpa))
  rw [ordFrac_eq_ord R x hx, ordMonoidWithZeroHom_eq_coe _ (by simpa) hm.symm,
    WithZero.one_le_coe, ← ofAdd_zero, Multiplicative.ofAdd_le]
  exact Nat.cast_nonneg ..
```
If you add
```
lemma ordMonoidWithZeroHom_eq_coe
    [Nontrivial R] {x : R} (hx : x ∈ nonZeroDivisors R) {n : ℕ} (hn : Ring.ord R x = n) :
    ordMonoidWithZeroHom R x = Multiplicative.ofAdd (n : ℤ) := by
  rw [ordMonoidWithZeroHom_eq_ord x hx, hn]
  rfl
```
Also I am slightly inclined to rename `ordMonoidWithZeroHom` to `ordHom` but this has low priority and obviously shouldn't happen in this PR.

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 34]
```diff
@@ -0,0 +1,316 @@
...
+    exact ordFrac_of_isUnit x h1
+
+/--
+The analogue of `ord_of_isUnit` for `ordFrac`, saying `ordFrac R (algebraMap R K x) = 1` for some
+unit `x`.
+-/
+lemma isUnit_iff_ordFrac_one_of_isDiscreteValuationRing [IsDiscreteValuationRing R] (x : R) :
+    IsUnit x ↔ ordFrac R (algebraMap R K x) = 1 := by
+  change IsUnit x ↔ algebraMap R K x ∈ MonoidHom.mker (ordFrac R)
+  simp [mker_ordFrac_eq_units, IsUnit.mem_submonoid_iff]
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: Now that we have the characterization `ordFrac_eq_valuation_inv`, every proof about `ordFrac` in DVRs should go through that lemma and if the proof doesn't go through it is most definitely because of a missing API there.

In particular if you add the following lemma below `IsDedekindDomain.HeightOneSpectrum.valuation_lt_one_iff_mem`
```
open IsDedekindDomain in
@[simp]
theorem valuation_eq_one_iff_notMem {R : Type*} [CommRing R] [IsDedekindDomain R]
    {K : Type*} [Field K] [Algebra R K] [IsFractionRing R K] (v : HeightOneSpectrum R) (r : R) :
    v.valuation K (algebraMap R K r) = 1 ↔ r ∉ v.asIdeal := by
  rw [← HeightOneSpectrum.valuation_lt_one_iff_mem (K := K), le_antisymm_iff]
  simp [HeightOneSpectrum.valuation_le_one]
```

Then the proof of `isUnit_iff_ordFrac_one_of_isDiscreteValuationRing` becomes 
```
lemma isUnit_iff_ordFrac_one_of_isDiscreteValuationRing [IsDiscreteValuationRing R] (x : R) :
    IsUnit x ↔ ordFrac R (algebraMap R K x) = 1 := by
  rw [ordFrac_eq_valuation_inv, inv_eq_one, valuation_eq_one_iff_notMem]
  simp [IsDiscreteValuationRing.maximalIdeal]
```
and you should then deduce `mker_ordFrac_eq_units` from this.

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 35]
```diff
@@ -0,0 +1,316 @@
...
+    IsDiscreteValuationRing.intValuation_maximalIdeal,
+    IsDiscreteValuationRing.addVal_uniformizer hϖ]
+  rfl
+
+/--
+For a discrete valuation ring `R` with fraction ring `K`,
+multiplicative kernel of `ordFrac R` is precisely the elements of `K`
+which are in the image of a unit of `R` under the algebra map.
+-/
+lemma mker_ordFrac_eq_units [IsDiscreteValuationRing R] :
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]:
```suggestion
lemma mker_ordFrac_eq_isUnitSubmonoid [IsDiscreteValuationRing R] :
```
Unfortunately the naming convention asks for this. Perhaps we should rename `IsUnit.submonoid`...

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 36]
```diff
@@ -0,0 +1,316 @@
...
+In a discrete valuation ring `R` with fraction ring `K`, if `x y : K` and
+`ordFrac R x = ordFrac R y`, then `x` must only differ from `y` by a unit of `R`.
+-/
+theorem associated_of_ordFrac_eq [IsDiscreteValuationRing R] (x y : K)
+    (h : ordFrac R x = ordFrac R y) : ∃ u : Rˣ, u • x = y := by
+  by_cases hx : x = 0
+  · simp_all only [map_zero, smul_zero, exists_const]
+    by_contra!
+    have : ordFrac R y ≠ 0 := by simp [this.symm]
+    exact this h.symm
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]:
```suggestion
  · rw [eq_comm] at h
    simp_all
```
Because there is a simp lemma about `ordFrac _ y = 0` but none about `0 = ordFrac _ y`. Not sure what to do here. Maybe we should add a simp lemma `0 = a <=> a = 0` but let's worry about this elsewhere.

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 37]
```diff
@@ -0,0 +1,316 @@
...
+    simpa [IsScalarTower.algebraMap_eq S R K]
+  apply ordFrac_ge_one_of_ne_zero
+  exact ha
+
+/--
+The analogue of `ord_of_isUnit` for `ordFrac`, saying `ordFrac R (algebraMap R K x) = 1` for some
+unit `x`.
+-/
+@[simp]
+lemma ordFrac_of_isUnit (x : R) (hx : IsUnit x) : ordFrac R (algebraMap R K x) = 1 := by
```
Comment (erdOne) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: This probably doesn't need DVR?

File: Mathlib/Algebra/Algebra/Tower.lean [hunk 38]
```diff
@@ -307,6 +307,21 @@ theorem coe_span_eq_span_of_surjective (h : Function.Surjective (algebraMap R A)
     (Submodule.span A s : Set M) = Submodule.span R s :=
   congr_arg ((↑) : Submodule R M → Set M) (Submodule.restrictScalars_span R A h s)
 
+/--
+Given a commutative ring `R`, an `R`-algebra `S` and an `R`-module `M` with a scalar tower
+`IsScalarTower R S M`, if the algebra map from `R` to `S` is surjective, then this induces an order
+isomorphism `Submodule S M ≃o Submodule R M`.
+-/
+def orderIsoOfAlgebraMapSurjective
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Algebra/Tower.lean:318]: I think we need at least a small API around this definition (maybe `simps` can generate all the lemmas we want).

File: Mathlib/Algebra/GroupWithZero/Action/Basic.lean [hunk 39]
```diff
@@ -118,6 +118,16 @@ lemma IsUnit.smul_sub_iff_sub_inv_smul [Group G] [Monoid R] [AddGroup R] [Distri
     IsUnit (r • (1 : R) - a) ↔ IsUnit (1 - r⁻¹ • a) := by
   rw [← isUnit_smul_iff r (1 - r⁻¹ • a), smul_sub, smul_inv_smul]
 
+theorem div_smul_div_comm {G K : Type*}
```
Comment (riccardobrasca) [inline Mathlib/Algebra/GroupWithZero/Action/Basic.lean]: Can you use some variables already in scope?

File: Mathlib/Algebra/GroupWithZero/Submonoid/Instances.lean [hunk 40]
```diff
@@ -53,4 +53,11 @@ instance [GroupWithZero G] [GroupWithZero H] (f : G →*₀ H) :
 instance [GroupWithZero G] [CommGroupWithZero H] (f : G →*₀ H) :
     CommGroupWithZero (MonoidHom.mrange f) where
 
+lemma mker_inverse {M : Type*} [CommGroupWithZero M] :
```
Comment (riccardobrasca) [inline Mathlib/Algebra/GroupWithZero/Submonoid/Instances.lean]: Can you a variable already in scope?

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 41]
```diff
@@ -354,6 +354,10 @@ lemma map'_mono [MulOneClass α] [MulOneClass β] {f : α →* β} (hf : Monoton
 lemma map'_strictMono [MulOneClass α] [MulOneClass β] {f : α →* β} (hf : StrictMono f) :
     StrictMono (map' f) := by simpa [StrictMono, WithZero.forall]
 
+lemma map'_apply {α β : Type*} [MulOneClass α] [MulOneClass β] (f : α →* β) (x) :
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean]:
```suggestion
lemma map'_apply [MulOneClass α] [MulOneClass β] (f : α →* β) (x) :
```

File: Mathlib/RingTheory/DiscreteValuationRing/Basic.lean [hunk 42]
```diff
@@ -341,6 +341,21 @@ theorem eq_unit_mul_pow_irreducible {x : R} (hx : x ≠ 0) {ϖ : R} (hirr : Irre
   use n, u
   apply mul_comm
 
+/--
+If `K` is the fraction field of a discrete valuation ring `R`, any element `x` of `K` can be
+expressed as `u • (algebraMap R K ϖ)^n` for some `u : Rˣ`, `n : ℤ`.
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/DiscreteValuationRing/Basic.lean]:
```suggestion
expressed as `u • (algebraMap R K ϖ) ^ n` for some `u : Rˣ` and `n : ℤ`.
```

File: Mathlib/RingTheory/DiscreteValuationRing/Basic.lean [hunk 43]
```diff
@@ -341,6 +341,21 @@ theorem eq_unit_mul_pow_irreducible {x : R} (hx : x ≠ 0) {ϖ : R} (hirr : Irre
...
+-/
+lemma exists_units_eq_smul_zpow_of_irreducible
+    {K : Type*} [Field K] [Algebra R K] [IsFractionRing R K]
+    {ϖ : R} (hϖ : Irreducible ϖ) (x : K) (hx : x ≠ 0) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/DiscreteValuationRing/Basic.lean]:
```suggestion
    {ϖ : R} (hϖ : Irreducible ϖ) {x : K} (hx : x ≠ 0) :
```
Only if it doesn't create problems downstream.

File: Mathlib/RingTheory/OrderOfVanishing/Basic.lean [hunk 44]
```diff
@@ -122,6 +118,114 @@ theorem ord_mul {a b : R} (hb : b ∈ nonZeroDivisors R) :
...
+-/
+lemma ord_zero : ord R 0 = Module.length R R := by
+  simp only [ord]
+  let m := (Submodule.quotEquivOfEqBot (Ideal.span {0} : Submodule R R) (span_singleton_zero))
+  exact le_antisymm (Module.length_le_of_injective m m.injective)
+      (Module.length_le_of_surjective m m.surjective)
+
+variable {R}
+/--
+For `x : R` a non zero divisor, `ord R (x^n) = n • ord R x`.
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Basic.lean]:
```suggestion
For `x : R` a non zero divisor, `ord R (x ^ n) = n • ord R x`.
```

File: Mathlib/RingTheory/OrderOfVanishing/Basic.lean [hunk 45]
```diff
@@ -122,6 +118,114 @@ theorem ord_mul {a b : R} (hb : b ∈ nonZeroDivisors R) :
...
+-/
+@[simp]
+theorem ord_pow (x : R) (hx : x ∈ nonZeroDivisors R) (n : ℕ) : ord R (x ^ n) = n • ord R x := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Basic.lean]:
```suggestion
theorem ord_pow {x : R} (hx : x ∈ nonZeroDivisors R) (n : ℕ) : ord R (x ^ n) = n • ord R x := by
```

File: Mathlib/RingTheory/OrderOfVanishing/Basic.lean [hunk 46]
```diff
@@ -122,6 +118,114 @@ theorem ord_mul {a b : R} (hb : b ∈ nonZeroDivisors R) :
...
+  induction n with
+  | zero => simp
+  | succ n ih =>
+    rw [pow_succ, ord_mul, ih, succ_nsmul]
+    exact hx
+
+@[simp]
+lemma ord_mul_of_isUnit_left (a : R) (h : IsUnit a) (x : R) : ord R (a * x) = ord R x := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Basic.lean]:
```suggestion
lemma ord_mul_of_isUnit_left {a : R} (h : IsUnit a) (x : R) : ord R (a * x) = ord R x := by
```

File: Mathlib/RingTheory/OrderOfVanishing/Basic.lean [hunk 47]
```diff
@@ -122,6 +118,114 @@ theorem ord_mul {a b : R} (hb : b ∈ nonZeroDivisors R) :
...
+  rw [ord, ord, Ideal.span_singleton_mul_left_unit h x]
+
+@[simp]
+lemma ord_mul_of_isUnit_right (a : R) (h : IsUnit a) (x : R) : ord R (x * a) = ord R x := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Basic.lean]:
```suggestion
lemma ord_mul_of_isUnit_right {a : R} (h : IsUnit a) (x : R) : ord R (x * a) = ord R x := by
```

File: Mathlib/RingTheory/OrderOfVanishing/Basic.lean [hunk 48]
```diff
@@ -122,6 +118,114 @@ theorem ord_mul {a b : R} (hb : b ∈ nonZeroDivisors R) :
...
+  rw [ord, ord, Ideal.span_singleton_mul_right_unit h x]
+
+lemma ord_eq_of_associated (x y : R) (h : Associated x y) : ord R x = ord R y := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Basic.lean]:
```suggestion
lemma ord_eq_of_associated {x y : R} (h : Associated x y) : ord R x = ord R y := by
```

File: Mathlib/RingTheory/OrderOfVanishing/Basic.lean [hunk 49]
```diff
@@ -122,6 +118,114 @@ theorem ord_mul {a b : R} (hb : b ∈ nonZeroDivisors R) :
...
+lemma ord_neg (x : R) : ord R (-x) = ord R x:= by
+    simp [ord_eq_of_associated (-x) (x) (by simp)]
+
+/--
+In an `S` algebra `R`, the order of vanishing of `x : R` is equal to the order of vanishing
+of `a • x` for `a` a unit in `S`.
+-/
+@[simp]
+lemma ord_smul_of_isUnit {S : Type*} [CommRing S] [Algebra S R]
+    (a : S) (h : IsUnit a) (x : R) : ord R (a • x) = ord R x := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Basic.lean]:
```suggestion
    {a : S} (h : IsUnit a) (x : R) : ord R (a • x) = ord R x := by
```

File: Mathlib/RingTheory/OrderOfVanishing/Basic.lean [hunk 50]
```diff
@@ -122,6 +118,114 @@ theorem ord_mul {a b : R} (hb : b ∈ nonZeroDivisors R) :
...
+-/
+lemma ord_le_ord_mul (a : R) (x : R) : ord R x ≤ ord R (a * x) := by
+  simp only [ord]
+  suffices Ideal.span {a * x} ≤ Ideal.span {x} by
+    let g : (R ⧸ Ideal.span {a * x}) →ₗ[R] (R ⧸ Ideal.span {x}) := Submodule.factor this
+    refine Module.length_le_of_surjective (Submodule.factor this) (Submodule.factor_surjective this)
+  rw [@Ideal.span_singleton_le_span_singleton]
+  exact Dvd.intro_left (Algebra.algebraMap a) rfl
+
+lemma ord_le_ord_of_dvd (a : R) (x : R) (h : a ∣ x) : ord R a ≤ ord R x := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Basic.lean]: Mabe we can make the variables implicit, but I am not sure.

File: Mathlib/RingTheory/OrderOfVanishing/Basic.lean [hunk 51]
```diff
@@ -122,6 +118,114 @@ theorem ord_mul {a b : R} (hb : b ∈ nonZeroDivisors R) :
...
+is the order on `ℕ∞` where `∞` is a top element.
+-/
+lemma ord_le_smul {S : Type*} [CommRing S] [Algebra S R] (a : S) (x : R) :
+    ord R x ≤ ord R (a • x) := by simp [Algebra.smul_def, ord_le_ord_mul]
+
+/--
+The order of vanishing of a unit is `0`.
+-/
+@[simp]
+lemma ord_of_isUnit (x : R) (hx : IsUnit x) : ord R x = 0 := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Basic.lean]:
```suggestion
lemma ord_of_isUnit {x : R} (hx : IsUnit x) : ord R x = 0 := by
```

File: Mathlib/RingTheory/OrderOfVanishing/Basic.lean [hunk 52]
```diff
@@ -122,6 +118,114 @@ theorem ord_mul {a b : R} (hb : b ∈ nonZeroDivisors R) :
...
+  simpa using ord_smul_of_isUnit x hx (1 : R)
+
+section IsPrincipalIdealRing
+
+variable [IsPrincipalIdealRing R]
+
+/--
+In a principal ideal ring, the order of vanishing of an irreducible element is `1`.
+-/
+theorem ord_of_irreducible (ϖ : R) (hϖ : Irreducible ϖ) : ord R ϖ = 1 := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Basic.lean]:
```suggestion
theorem ord_of_irreducible {ϖ : R} (hϖ : Irreducible ϖ) : ord R ϖ = 1 := by
```

File: Mathlib/RingTheory/OrderOfVanishing/Basic.lean [hunk 53]
```diff
@@ -149,6 +253,31 @@ def ordMonoidWithZeroHom [Nontrivial R] : R →*₀ ℤᵐ⁰ where
...
     all_goals simp_all [mul_mem_nonZeroDivisors]
 
+
+variable {R} in
+/--
+If `x` is a non zero divisor, `ordMonoidWithZeroHom` is equal to the canonical embedding
+of `Ring.ord R x` into `WithZero (Multiplicative ℤ)`.
+-/
+@[simp]
+theorem ordMonoidWithZeroHom_eq_ord [Nontrivial R] (x : R) (h : x ∈ nonZeroDivisors R) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Basic.lean]:
```suggestion
theorem ordMonoidWithZeroHom_eq_ord [Nontrivial R] {x : R} (h : x ∈ nonZeroDivisors R) :
```

File: Mathlib/RingTheory/OrderOfVanishing/Basic.lean [hunk 54]
```diff
@@ -149,6 +253,31 @@ def ordMonoidWithZeroHom [Nontrivial R] : R →*₀ ℤᵐ⁰ where
...
+    ordMonoidWithZeroHom R x =
+  WithZero.map' (Nat.castAddMonoidHom ℤ).toMultiplicative (Ring.ord R x) := dif_pos h
+
+lemma ordMonoidWithZeroHom_eq_coe
+    [Nontrivial R] {x : R} (hx : x ∈ nonZeroDivisors R) {n : ℕ} (hn : Ring.ord R x = n) :
+    ordMonoidWithZeroHom R x = Multiplicative.ofAdd (n : ℤ) := by
+  rw [ordMonoidWithZeroHom_eq_ord x hx, hn]
+  rfl
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Basic.lean]: Is is possible to add a separate lemma instead of using `rfl` here?

File: Mathlib/RingTheory/OrderOfVanishing/Basic.lean [hunk 55]
```diff
@@ -149,6 +253,31 @@ def ordMonoidWithZeroHom [Nontrivial R] : R →*₀ ℤᵐ⁰ where
...
+
+variable {R} in
+/--
+If `x` is not a non zero divisor, `ordMonoidWithZeroHom` is equal to `0`.
+-/
+@[simp]
+theorem ordMonoidWithZeroHom_eq_zero [Nontrivial R] (x : R) (h : x ∉ nonZeroDivisors R) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Basic.lean]:
```suggestion
theorem ordMonoidWithZeroHom_eq_zero [Nontrivial R] {x : R} (h : x ∉ nonZeroDivisors R) :
```

File: Mathlib/RingTheory/Valuation/Discrete/Basic.lean [hunk 56]
```diff
@@ -520,4 +551,17 @@ noncomputable def equivValuationSubring :
     (IsFractionRing.injective A _))).trans
       (RingEquiv.subringCongr map_algebraMap_eq_valuationSubring)
 
+lemma intValuation_maximalIdeal
+    {R : Type*} [CommRing R] [IsDomain R] [IsDiscreteValuationRing R] (x) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Valuation/Discrete/Basic.lean]: Can you add the type of `x`?

File: Mathlib/RingTheory/Valuation/Discrete/Basic.lean [hunk 57]
```diff
@@ -520,4 +551,17 @@ noncomputable def equivValuationSubring :
...
+    (maximalIdeal R).intValuation x =
+      (WithZero.map (.ofAdd ∘ (↑)) (addVal R x))⁻¹ := by
+  by_cases hx : x = 0
+  · simp [hx]; rfl
+  obtain ⟨ϖ, hϖ⟩ := exists_irreducible R
+  obtain ⟨n, u, rfl⟩ := eq_unit_mul_pow_irreducible hx hϖ
+  have : (maximalIdeal R).intValuation ↑u = 1 := by simp [maximalIdeal]
+  simp [(maximalIdeal R).intValuation_singleton hϖ.ne_zero
+    hϖ.maximalIdeal_eq, hϖ, this]
+  rfl
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Valuation/Discrete/Basic.lean]: Can we avoid this `rfl`?

File: Mathlib/RingTheory/SimpleModule/Basic.lean [hunk 58]
```diff
@@ -98,6 +98,13 @@ theorem LinearMap.isSimpleModule_iff_of_bijective [Module S N] {σ : R →+* S}
     (l : M →ₛₗ[σ] N) (hl : Function.Bijective l) : IsSimpleModule R M ↔ IsSimpleModule S N := by
   simp_rw [isSimpleModule_iff, (Submodule.orderIsoMapComapOfBijective l hl).isSimpleOrder_iff]
 
+lemma isSimpleModule_iff_isSimpleModule_of_algebraMap_surjective
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/SimpleModule/Basic.lean:101]: Can you use some of the variables already in scope?

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 59]
```diff
@@ -0,0 +1,251 @@
...
+
+open Ring
+
+section NoetherianDimLEOne
+
+variable {R : Type*} [CommRing R]
+variable [IsNoetherianRing R] [Ring.KrullDimLE 1 R]
+variable {K : Type*} [Field K] [Algebra R K] [IsFractionRing R K]
+
+lemma ord_ne_top (a : R) (ha : a ∈ nonZeroDivisors R) : ord R a ≠ ⊤ := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]:
```suggestion
lemma ord_ne_top {a : R} (ha : a ∈ nonZeroDivisors R) : ord R a ≠ ⊤ := by
```

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 60]
```diff
@@ -0,0 +1,251 @@
...
+  toFun x := .ofAdd <| (Ring.ord R x).untop (ord_ne_top _ x.2)
+  map_one' := by simp only [OneMemClass.coe_one, isUnit_one, ord_of_isUnit, ofAdd_eq_one]; rfl
+  map_mul' x y := by
+    rw [← ofAdd_add]
+    congr 1
+    apply WithTop.coe_injective
+    simp [ord_mul]
+    rfl
+
+lemma ord_eq_ordMonoidHom (x : R⁰) : Ring.ord R x = (ordMonoidHom x).toAdd := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: It can maybe be `simp` is written in the other direction.

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 61]
```diff
@@ -0,0 +1,251 @@
...
+  change _ = WithTop.some ((Ring.ord R x).untop (ord_ne_top _ x.2))
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: Can you please add a `rfl` lemma that allows to avoid this `change`?

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 62]
```diff
@@ -0,0 +1,251 @@
...
+  simp
+
+lemma ordMonoidWithZeroHom_eq_ordMonoidHom [Nontrivial R] (x : R⁰) :
+    ordMonoidWithZeroHom R x = .coe (.ofAdd ((ordMonoidHom x).toAdd : ℤ)) := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: The reverse direction can maybe be `simp`.

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 63]
```diff
@@ -0,0 +1,251 @@
...
+  simp only [SetLike.coe_mem, ordMonoidWithZeroHom_eq_ord, ordMonoidHom, MonoidHom.coe_mk,
+    OneHom.coe_mk, toAdd_ofAdd]
+  generalize_proofs ha
+  generalize ord R x.1 = a at *
+  induction a
+  · simp at ha
+    contradiction
+  · rfl
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: Can this be avoided?

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 64]
```diff
@@ -0,0 +1,251 @@
...
+
+/--
+Analogue of `ord_ne_top` for `ordMonoidWithZeroHom`.
+-/
+lemma ordMonoidWithZeroHom_ne_zero [Nontrivial R] (a : R) (ha : a ∈ nonZeroDivisors R) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]:
```suggestion
lemma ordMonoidWithZeroHom_ne_zero [Nontrivial R] {a : R} (ha : a ∈ nonZeroDivisors R) :
```

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 65]
```diff
@@ -0,0 +1,251 @@
...
+  lift a to R⁰ using ha
+  simp [ordMonoidWithZeroHom_eq_ordMonoidHom, -ordMonoidWithZeroHom_eq_ord]
+
+variable [Nontrivial R]
+/--
+Helper lemma to pass between the orders on `ℕ∞` and `ℤᵐ⁰` (which notably have different behaviour at
+`∞`). Note that here we're using the fact that the order of any non zero divisor is finite, hence
+the assumptions on the ring.
+-/
+lemma ord_le_iff (a b : R) (ha : a ∈ nonZeroDivisors R) (hb : b ∈ nonZeroDivisors R) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]:
```suggestion
lemma ord_le_iff {a b : R} (ha : a ∈ nonZeroDivisors R) (hb : b ∈ nonZeroDivisors R) :
```

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 66]
```diff
@@ -0,0 +1,251 @@
...
+
+/--
+For any nonzero `x : R`, `ordFrac R (algebraMap R K x) ≥ 1`. Note here that this last
+expression is in `ℤᵐ⁰`, so the syntax may be slightly different than expected. Namely,
+the `1` here is `WithZero.exp 0`, and so would usually be written as `0` in the additive
+context. Further, the order here is different to similar lemmas involving `Ring.ord`, since
+here the order is on `ℤᵐ⁰` has the `∞` element less than everything else, whereas in `Ring.ord`
+we work with the order on `ℕ∞` where the `∞` element is interpreted as a `⊤` element.
+-/
+lemma ordFrac_ge_one_of_ne_zero (x : R) (hx : x ≠ 0) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]:
```suggestion
lemma ordFrac_ge_one_of_ne_zero {x : R} (hx : x ≠ 0) :
```

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 67]
```diff
@@ -0,0 +1,251 @@
...
+    ordFrac R = MonoidWithZeroHom.comp MonoidWithZero.inverse
+    ((IsDiscreteValuationRing.maximalIdeal R).valuation K).toMonoidWithZeroHom := by
+  ext a
+  by_cases ha : a = 0
+  · simp_all
+  obtain ⟨x, y, hy, rfl⟩ := IsFractionRing.div_surjective (A := R) a
+  simp_all [ordFrac_eq_ord, ord_eq_addVal,
+    IsDedekindDomain.HeightOneSpectrum.valuation_of_algebraMap,
+    IsDiscreteValuationRing.intValuation_maximalIdeal, WithZero.map'_apply]
+  rfl
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: Please try to avoid `rfl` in proofs.

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 68]
```diff
@@ -0,0 +1,251 @@
...
+
+theorem ordFrac_eq_valuation_inv (x : K) :
+    ordFrac R x = ((IsDiscreteValuationRing.maximalIdeal R).valuation K x)⁻¹ := by
+  simp [ordFrac_eq_inverse_comp_valuation]
+
+lemma ordFrac_irreducible
+    (ϖ : R) (hϖ : Irreducible ϖ) : ordFrac R (algebraMap R K ϖ) = WithZero.exp 1 := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]:
```suggestion
    {ϖ : R} (hϖ : Irreducible ϖ) : ordFrac R (algebraMap R K ϖ) = WithZero.exp 1 := by
```

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean (hunk 67 above)
Comment (Raph-DG) [reply Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: Thanks for the comments! That's interesting, I wasn't aware people prefer that we avoid rfl. May I ask why this is preferable?

Comment (riccardobrasca) [reply Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: It makes a proof much more robust and also improves the API. If you define `foo := bar` than you should have a lemma (whose proof is of course `rfl`) that says `foo = bar`, and use that lemma rather than `rfl`. In this way if at some point someone changes the definition of `foo` to `bar'` it will be enough to change the proof the lemma and nothing else will break.

Also, sometimes it is a sign you are abusing defeq.

Comment (Raph-DG) [reply Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: Ah interesting, that makes sense. Thanks!

File: Mathlib/Algebra/Algebra/Tower.lean [hunk 69]
```diff
@@ -307,6 +307,34 @@ theorem coe_span_eq_span_of_surjective (h : Function.Surjective (algebraMap R A)
...
+    [Algebra R S] [Module R M] [Module S M] [IsScalarTower R S M]
+    (h : Function.Surjective (algebraMap R S)) : Submodule S M ≃o Submodule R M where
+  toFun N := N.restrictScalars R
+  invFun N := ⟨N.toAddSubmonoid, by simpa [h.forall] using N.2⟩
+  left_inv _ := rfl
+  right_inv _ := rfl
+  map_rel_iff' := .rfl
+
+@[simp]
+lemma orderIsoOfAlgebraMapSurjective_apply {R S M : Type*} [CommRing R] [Ring S] [AddCommGroup M]
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Algebra/Tower.lean]: Did you try to use `simps` to generate these lemmas?

File: Mathlib/Algebra/Group/TypeTags/Basic.lean [hunk 70]
```diff
@@ -518,3 +518,7 @@ lemma Pi.single_additiveOfMul_eq {ι : Type*} [DecidableEq ι] {M : ι → Type*
   · simp only [mulSingle_eq_same, single_eq_same]
   · simp only [single, ne_eq, h, not_false_eq_true, Function.update_of_ne, zero_apply, mulSingle,
       one_apply, ofMul_one]
+
+lemma Multiplicative.ofAdd_cast_toAdd_eq_ofAdd_cast {R : Type*} [NatCast R] :
+    ⇑Multiplicative.ofAdd ∘ (@Nat.cast R _) ∘ ⇑Multiplicative.toAdd =
+    ⇑Multiplicative.ofAdd ∘ Nat.cast := rfl
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Group/TypeTags/Basic.lean]:
```suggestion
lemma Multiplicative.ofAdd_cast_toAdd_eq_ofAdd_cast [NatCast α] :
    Multiplicative.ofAdd ∘ (Nat.cast (R := α)) ∘ Multiplicative.toAdd =
    Multiplicative.ofAdd ∘ Nat.cast := rfl
```
The name should mention `comp`. Also, consider to add the applied version.

File: Mathlib/Algebra/GroupWithZero/Action/Basic.lean [hunk 71]
```diff
@@ -118,6 +118,15 @@ lemma IsUnit.smul_sub_iff_sub_inv_smul [Group G] [Monoid R] [AddGroup R] [Distri
...
   rw [← isUnit_smul_iff r (1 - r⁻¹ • a), smul_sub, smul_inv_smul]
 
+theorem div_smul_div_comm [Group G] [GroupWithZero G₀] [MulAction G G₀]
+    [IsScalarTower G G₀ G₀] [SMulCommClass G G₀ G₀] (g h : G) (a b : G₀) :
+    (g / h) • (a / b) = (g • a) / (h • b) := by
+  have (x : G) : x • (0 : G₀) = 0 := by simpa using (smul_assoc x (0 : G₀) (0 : G₀)).symm
+  by_cases hb : b = 0
+  · simp [hb, this]
+  rw [eq_div_iff_mul_eq (ne_of_apply_ne (h⁻¹ • ·) (by simpa [this])), smul_mul_smul_comm]
+  simp [hb]
```
Comment (riccardobrasca) [inline Mathlib/Algebra/GroupWithZero/Action/Basic.lean]:
```suggestion
  have : h • b ≠ 0 := by
    refine (ne_of_apply_ne (h⁻¹ • ·) ?_)
    simpa [this]
  rw [eq_div_iff_mul_eq this, smul_mul_smul_comm]
  simp [hb]
```
It's probably more maintainable.

File: Mathlib/Algebra/GroupWithZero/Submonoid/Instances.lean [hunk 72]
```diff
@@ -53,4 +53,11 @@ instance [GroupWithZero G] [GroupWithZero H] (f : G →*₀ H) :
 instance [GroupWithZero G] [CommGroupWithZero H] (f : G →*₀ H) :
     CommGroupWithZero (MonoidHom.mrange f) where
 
+lemma mker_inverse [CommGroupWithZero H] :
+    MonoidHom.mker (MonoidWithZero.inverse (M := H)) = ⊥ := by
+  ext a
+  simp only [MonoidHom.mem_mker, MonoidWithZero.inverse_apply, Submonoid.mem_bot]
+  rw [Ring.inverse_eq_inv]
+  exact inv_eq_one
```
Comment (riccardobrasca) [inline Mathlib/Algebra/GroupWithZero/Submonoid/Instances.lean]:
```suggestion
  ext
  simp
```

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 73]
```diff
@@ -394,6 +394,9 @@ theorem le_ofAdd_iff
     a ≤ ofAdd b ↔ toAdd (unzero ha) ≤ b :=
   ⟨toAdd_unzero_le_of_lt_ofAdd ha, le_ofAdd_of_toAdd_unzero_le ha⟩
 
+lemma map_multiplicative_eq_map {α β : Type*} :
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean]: This lemma has nothing to do with order, can you move it to the appropriate place?

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 74]
```diff
@@ -394,6 +394,9 @@ theorem le_ofAdd_iff
...
+    WithZero.map (α := Multiplicative α) (β := β) = WithZero.map (α := α) (β := β) := rfl
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean]:
```suggestion
    WithZero.map (α := Multiplicative α) (β := β) = WithZero.map  := rfl
```

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 75]
```diff
@@ -592,4 +595,8 @@ lemma le_exp_log {x : Gᵐ⁰} :
   · simp
   · rfl
 
+lemma map'_apply [MulOneClass α] [MulOneClass β] (f : α →* β) (x) :
+    WithZero.map' f x = x.map f := by
+  cases x <;> simp only [map'_coe, map_coe, map_zero, map_bot]
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean]:
```suggestion
  cases x <;> simp
```
This should also be moved, and probably tagged `simp`.

File: Mathlib/RingTheory/Valuation/Discrete/Basic.lean [hunk 76]
```diff
@@ -502,6 +502,37 @@ theorem exists_lift_of_le_one {x : K} (H : ((maximalIdeal A).valuation K) x ≤
...
+theorem associated_of_valuation_eq (x y : K)
+    (h : ((maximalIdeal A).valuation K) x =
+    ((maximalIdeal A).valuation K) y) : ∃ u : Aˣ, u • x = y := by
+  by_cases hx : x = 0
+  · rw [eq_comm] at h
+    simp_all
+  by_cases hy : y = 0
+  · simp_all
+  have : (y / x) ∈ MonoidHom.mker (((maximalIdeal A).valuation K)) :=
+    by simp_all
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Valuation/Discrete/Basic.lean]:
```suggestion
  have : (y / x) ∈ MonoidHom.mker (((maximalIdeal A).valuation K)) := by simp_all
```

File: Mathlib/Algebra/Algebra/Tower.lean (hunk 69 above)
Comment (Raph-DG) [reply Mathlib/Algebra/Algebra/Tower.lean]: Yeah simps didn't seem to work

File: Mathlib/Algebra/Algebra/Tower.lean [hunk 77]
```diff
@@ -307,6 +307,34 @@ theorem coe_span_eq_span_of_surjective (h : Function.Surjective (algebraMap R A)
     (Submodule.span A s : Set M) = Submodule.span R s :=
   congr_arg ((↑) : Submodule R M → Set M) (Submodule.restrictScalars_span R A h s)
 
+/--
+Given a commutative ring `R`, an `R`-algebra `S` and an `R`-module `M` with a scalar tower
+`IsScalarTower R S M`, if the algebra map from `R` to `S` is surjective, then this induces an order
+isomorphism `Submodule S M ≃o Submodule R M`.
+-/
+def orderIsoOfAlgebraMapSurjective
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Algebra/Tower.lean:318]:
```suggestion
@[simps apply symm_apply]
def orderIsoOfAlgebraMapSurjective
```
Produces the lemmas you want (note that the second one has a different name).

File: Mathlib/Algebra/Group/TypeTags/Basic.lean [hunk 78]
```diff
@@ -518,3 +518,11 @@ lemma Pi.single_additiveOfMul_eq {ι : Type*} [DecidableEq ι] {M : ι → Type*
...
   · simp only [single, ne_eq, h, not_false_eq_true, Function.update_of_ne, zero_apply, mulSingle,
       one_apply, ofMul_one]
+
+lemma Multiplicative.ofAdd_comp_cast_comp_toAdd_eq_ofAdd_comp_cast [NatCast α] :
+    ⇑Multiplicative.ofAdd ∘ (Nat.cast (R := α)) ∘ ⇑Multiplicative.toAdd =
+    ⇑Multiplicative.ofAdd ∘ Nat.cast := rfl
+
+lemma Multiplicative.ofAdd_comp_cast_comp_toAdd_eq_ofAdd_comp_cast_apply [NatCast α] (n : ℕ) :
+    (⇑Multiplicative.ofAdd ∘ (Nat.cast (R := α)) ∘ ⇑Multiplicative.toAdd) n =
+    (⇑Multiplicative.ofAdd ∘ Nat.cast) n := rfl
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Group/TypeTags/Basic.lean]:
```suggestion
lemma Multiplicative.ofAdd_comp_cast_comp_toAdd_eq_ofAdd_comp_cast [NatCast α] :
    Multiplicative.ofAdd ∘ (Nat.cast (R := α)) ∘ Multiplicative.toAdd =
    Multiplicative.ofAdd ∘ Nat.cast := rfl

lemma Multiplicative.ofAdd_comp_cast_comp_toAdd_eq_ofAdd_comp_cast_apply [NatCast α] (n : ℕ) :
    (Multiplicative.ofAdd ∘ (Nat.cast (R := α)) ∘ Multiplicative.toAdd) n =
    (Multiplicative.ofAdd ∘ Nat.cast) n := rfl
```

File: Mathlib/RingTheory/DedekindDomain/AdicValuation.lean [hunk 79]
```diff
@@ -332,6 +332,12 @@ theorem valuation_lt_one_iff_mem (r : R) :
     v.valuation K r < 1 ↔ r ∈ v.asIdeal := by
   rw [valuation_of_algebraMap]; exact v.intValuation_lt_one_iff_mem r
 
+@[simp]
+theorem valuation_eq_one_iff_notMem (r : R) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/DedekindDomain/AdicValuation.lean]:
```suggestion
theorem valuation_eq_one_iff_notMem {r : R} :
```
This is slightly more idiomatic, but as you prefer.

File: Mathlib/RingTheory/DiscreteValuationRing/Basic.lean [hunk 80]
```diff
@@ -469,6 +484,31 @@ lemma addVal_eq_zero_iff {x : R} :
...
   simp [isUnit_pow_iff_of_not_isUnit hϖ.not_isUnit, hϖ]
 
+lemma addVal_eq_iff_associated (x y : R) :
+    addVal R x = addVal R y ↔ Associated x y := by
+  constructor
+  · intro h
+    by_cases hx : x = 0
+    · simp_all only [AddValuation.map_zero]
+      have : y = 0 := addVal_eq_top_iff.mp h.symm
+      rw [this]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/DiscreteValuationRing/Basic.lean]:
```suggestion
      rw [addVal_eq_top_iff.mp h.symm]
```

File: Mathlib/RingTheory/DiscreteValuationRing/Basic.lean [hunk 81]
```diff
@@ -469,6 +484,31 @@ lemma addVal_eq_zero_iff {x : R} :
...
+    by_cases hy : y = 0
+    · simp_all only [AddValuation.map_zero, associated_zero_iff_eq_zero]
+      have : x = 0 := addVal_eq_top_iff.mp h
+      exact hx this
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/DiscreteValuationRing/Basic.lean]:
```suggestion
      exact hx (addVal_eq_top_iff.mp h)
```

File: Mathlib/RingTheory/DiscreteValuationRing/Basic.lean [hunk 82]
```diff
@@ -469,6 +484,31 @@ lemma addVal_eq_zero_iff {x : R} :
...
+    obtain ⟨m, α, hx'⟩ := eq_unit_mul_pow_irreducible hx hϖ
+    obtain ⟨n, β, hy'⟩ := eq_unit_mul_pow_irreducible hy hϖ
+    simp only [hx', AddValuation.map_mul, addVal_eq_zero_of_unit, AddValuation.map_pow,
+      nsmul_eq_mul, zero_add, hy', associated_unit_mul_right_iff,
+      associated_unit_mul_left_iff] at h ⊢
+    simp only [addVal_uniformizer hϖ, mul_one, ENat.coe_inj] at h
+    rw [h]
+    exact Associates.mk_eq_mk_iff_associated.mp rfl
+  · intro h
+    obtain ⟨u, rfl⟩ := h
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/DiscreteValuationRing/Basic.lean]:
```suggestion
  · rintro ⟨u, rfl⟩
```

File: Mathlib/RingTheory/OrderOfVanishing/Basic.lean [hunk 83]
```diff
@@ -122,6 +118,114 @@ theorem ord_mul {a b : R} (hb : b ∈ nonZeroDivisors R) :
...
+/-
+Note that the order here is the order on `ℕ∞` where `∞` is a top element, rather than the order on
+`ℤᵐ⁰` which also comes up when working with orders of vanishing.
+-/
+lemma ord_le_ord_mul (a : R) (x : R) : ord R x ≤ ord R (a * x) := by
+  simp only [ord]
+  suffices Ideal.span {a * x} ≤ Ideal.span {x} by
+    let g : (R ⧸ Ideal.span {a * x}) →ₗ[R] (R ⧸ Ideal.span {x}) := Submodule.factor this
+    refine Module.length_le_of_surjective (Submodule.factor this) (Submodule.factor_surjective this)
+  rw [@Ideal.span_singleton_le_span_singleton]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Basic.lean]:
```suggestion
  rw [Ideal.span_singleton_le_span_singleton]
```

File: Mathlib/RingTheory/OrderOfVanishing/Basic.lean [hunk 84]
```diff
@@ -134,21 +238,52 @@ meaning in this case `0` will not be mapped to `⊤`.
...
     all_goals simp_all [mul_mem_nonZeroDivisors]
 
+
+variable {R} in
+/--
+If `x` is a non zero divisor, `ordMonoidWithZeroHom` is equal to the canonical embedding
+of `Ring.ord R x` into `WithZero (Multiplicative ℤ)`.
+-/
+@[simp]
+theorem ordMonoidWithZeroHom_eq_ord [Nontrivial R] {x : R} (h : x ∈ nonZeroDivisors R) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Basic.lean:270]: The RHS seems more complicated then the LHS...

File: Mathlib/RingTheory/OrderOfVanishing/Basic.lean [hunk 85]
```diff
@@ -134,21 +238,52 @@ meaning in this case `0` will not be mapped to `⊤`.
...
-    · rw [← MonoidWithZeroHom.map_mul]
-      congr
-      exact ord_mul R b
+    · rw [ord_mul _ b]
+      generalize ord R x = x'
+      generalize ord R y = y'
+      cases x' <;> cases y'
+      case pos.coe.coe =>
+        simp only [← ENat.coe_add, ENat.recTopCoe_coe, Nat.cast_add (R := ℤ),
+          ofAdd_add, WithZero.coe_mul]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Basic.lean]:
```suggestion
      on_goal 4 =>
        simp only [← ENat.coe_add, ENat.recTopCoe_coe, Nat.cast_add (R := ℤ),
          ofAdd_add, WithZero.coe_mul]
```

File: Mathlib/RingTheory/OrderOfVanishing/Basic.lean [hunk 86]
```diff
@@ -134,21 +238,52 @@ meaning in this case `0` will not be mapped to `⊤`.
...
+-/
+@[simp]
+theorem ordMonoidWithZeroHom_eq_ord [Nontrivial R] {x : R} (h : x ∈ nonZeroDivisors R) :
+    ordMonoidWithZeroHom R x =
+  (ENat.recTopCoe 0 (WithZero.coe <| Multiplicative.ofAdd ·) (Ring.ord R x)) := dif_pos h
+
+@[simp]
+lemma _root_.ENat.map'_toMultiplicative_cast_eq_ofAdd {n : ℕ} :
+    (map' (AddMonoidHom.toMultiplicative (Nat.castAddMonoidHom ℤ))) (n : ℕ∞) =
+    ↑(Multiplicative.ofAdd (n : ℤ)) := rfl
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Basic.lean]:
```suggestion
    Multiplicative.ofAdd (n : ℤ) := rfl
```
Again not sure this is a good `simp` lemma.

File: Mathlib/RingTheory/Valuation/Discrete/Basic.lean [hunk 87]
```diff
@@ -502,6 +502,36 @@ theorem exists_lift_of_le_one {x : K} (H : ((maximalIdeal A).valuation K) x ≤
...
+  ext a
+  simp only [MonoidHom.mem_mker, Submonoid.mem_map]
+  refine ⟨fun h ↦ ?_, fun h ↦ ?_⟩
+  · obtain ⟨b, rfl⟩ := IsDiscreteValuationRing.exists_lift_of_le_one h.le
+    rw [valuation_eq_one_iff_notMem] at h
+    simp only [IsDiscreteValuationRing.maximalIdeal, IsLocalRing.mem_maximalIdeal, mem_nonunits_iff,
+      not_not] at h
+    use b, h
+  · obtain ⟨x, h, rfl⟩ := h
+    rw [valuation_eq_one_iff_notMem]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Valuation/Discrete/Basic.lean]:
```suggestion
```

File: Mathlib/RingTheory/Valuation/Discrete/Basic.lean [hunk 88]
```diff
@@ -520,4 +550,17 @@ noncomputable def equivValuationSubring :
     (IsFractionRing.injective A _))).trans
       (RingEquiv.subringCongr map_algebraMap_eq_valuationSubring)
 
+lemma intValuation_maximalIdeal
+    {R : Type*} [CommRing R] [IsDomain R] [IsDiscreteValuationRing R] (x : R) :
+    (maximalIdeal R).intValuation x =
+      (ENat.recTopCoe 0 (WithZero.coe <| Multiplicative.ofAdd <| Nat.cast (R := ℤ) · )
+      (addVal R x))⁻¹ := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Valuation/Discrete/Basic.lean]:
```suggestion
lemma intValuation_maximalIdeal (x : A) :
    (maximalIdeal A).intValuation x =
      (ENat.recTopCoe 0 (WithZero.coe <| Multiplicative.ofAdd <| Nat.cast · ) (addVal A x))⁻¹ := by
```

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 89]
```diff
@@ -0,0 +1,259 @@
...
+
+open Ring
+
+section NoetherianDimLEOne
+
+variable {R : Type*} [CommRing R]
+variable [IsNoetherianRing R] [Ring.KrullDimLE 1 R]
+variable {K : Type*} [Field K] [Algebra R K] [IsFractionRing R K]
+
+lemma ord_ne_top {a : R} (ha : a ∈ nonZeroDivisors R) : ord R a ≠ ⊤ := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: This is in the root namespace, and it surely should not. Please use some `namespace`.

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 90]
```diff
@@ -0,0 +1,259 @@
...
+
+/--
+Analogue of `ord_ne_top` for `ordMonoidWithZeroHom`.
+-/
+lemma ordMonoidWithZeroHom_ne_zero [Nontrivial R] {a : R} (ha : a ∈ nonZeroDivisors R) :
+    ordMonoidWithZeroHom R a ≠ 0 := by
+  lift a to R⁰ using ha
+  simp [← ordMonoidWithZeroHom_eq_ordMonoidHom, -ordMonoidWithZeroHom_eq_ord]
+
+variable [Nontrivial R]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean:65]:
```suggestion
variable [Nontrivial R]

```

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 91]
```diff
@@ -0,0 +1,259 @@
...
+section IsDiscreteValuationRing
+
+variable [IsDomain R] [IsDiscreteValuationRing R]
+
+/--
+In a discrete valuation ring, `ord R x` is the same as `addVal R x`. We prefer the second spelling
+here for most purposes.
+-/
+@[simp]
+lemma ord_eq_addVal (x : R) : ord R x = IsDiscreteValuationRing.addVal R x := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean:89]: Can you check if this can go to another (more basic) file?

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 92]
```diff
@@ -0,0 +1,259 @@
...
+/--
+For any nonzero `x : R`, `ordFrac R (algebraMap R K x) ≥ 1`. Note here that this last
+expression is in `ℤᵐ⁰`, so the syntax may be slightly different than expected. Namely,
+the `1` here is `WithZero.exp 0`, and so would usually be written as `0` in the additive
+context. Further, the order here is different to similar lemmas involving `Ring.ord`, since
+here the order is on `ℤᵐ⁰` has the `∞` element less than everything else, whereas in `Ring.ord`
+we work with the order on `ℕ∞` where the `∞` element is interpreted as a `⊤` element.
+-/
+lemma ordFrac_ge_one_of_ne_zero {x : R} (hx : x ≠ 0) :
+    ordFrac R (algebraMap R K x) ≥ 1 := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: Please use `≤`. I am surprised we don't have a linter for that!

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 93]
```diff
@@ -0,0 +1,259 @@
...
+  suffices ordFrac R f ≤ ordFrac R (algebraMap S K a • f) by simp_all only [ne_eq,
+    algebraMap_smul]
+  simp only [smul_eq_mul, map_mul]
+  apply le_mul_of_one_le_left'
+  simp [IsScalarTower.algebraMap_eq S R K, ordFrac_ge_one_of_ne_zero ha]
+
+@[simp]
+lemma ENat.multiplicative_cast_zero_eq_one :
+    (WithZero.map' (AddMonoidHom.toMultiplicative (Nat.castAddMonoidHom ℤ)))
+    (0 : ℕ∞) = 1 := rfl
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]:
```suggestion
      (0 : ℕ∞) = 1 := rfl
```

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 94]
```diff
@@ -0,0 +1,259 @@
...
+
+@[simp]
+lemma ordFrac_of_isUnit (x : R) (hx : IsUnit x) : ordFrac R (algebraMap R K x) = 1 := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]:
```suggestion
lemma ordFrac_of_isUnit {x : R} (hx : IsUnit x) : ordFrac R (algebraMap R K x) = 1 := by
```

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 95]
```diff
@@ -0,0 +1,259 @@
...
+  have thing : x ∈ nonZeroDivisors R := IsUnit.mem_nonZeroDivisors hx
+  simp [ordFrac_eq_ord R x this, thing, ordMonoidWithZeroHom_eq_ord, ord_of_isUnit hx]
+
+end ordFrac
+section IsDiscreteValuationRing
+
+variable [IsDomain R] [IsDiscreteValuationRing R]
+variable {K : Type*} [Field K] [Algebra R K] [IsFractionRing R K]
+
+lemma ordMonoidWithZeroHom_eq_intValutation {R : Type u_1} [CommRing R] [IsDomain R]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]:
```suggestion
lemma ordMonoidWithZeroHom_eq_intValutation {R : Type*} [CommRing R] [IsDomain R]
```
Also, you already have a `R` in scope, please use it.

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 96]
```diff
@@ -0,0 +1,259 @@
...
+    [IsDiscreteValuationRing R] (x : R) (h : x ∈ nonZeroDivisors R) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]:
```suggestion
    [IsDiscreteValuationRing R] {x : R} (h : x ∈ nonZeroDivisors R) :
```

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 97]
```diff
@@ -0,0 +1,259 @@
...
+    (ordMonoidWithZeroHom R) x = ((IsDiscreteValuationRing.maximalIdeal R).intValuation x)⁻¹ := by
+  simp only [ordMonoidWithZeroHom_eq_ord h, ord_eq_addVal,
+    IsDiscreteValuationRing.intValuation_maximalIdeal, inv_inv]
+
+lemma ordFrac_eq_intValuation {R K : Type*} [CommRing R] [IsDomain R] [IsDiscreteValuationRing R]
+    [Field K] [Algebra R K] [IsFractionRing R K]
+    {x : R}
+    (h : x ≠ 0)
+    : (ordFrac R) ((algebraMap R K) x) =
+    ((IsDiscreteValuationRing.maximalIdeal R).intValuation x)⁻¹ := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]:
```suggestion
lemma ordFrac_eq_intValuation {R K : Type*} [CommRing R] [IsDomain R] [IsDiscreteValuationRing R]
    [Field K] [Algebra R K] [IsFractionRing R K] {x : R} (h : x ≠ 0) :
      (ordFrac R) ((algebraMap R K) x) =
    ((IsDiscreteValuationRing.maximalIdeal R).intValuation x)⁻¹ := by
```
Again use the variables already in scope.

I don't want to be rude, so don't worry too much, but *please* check the code written by an LLM.

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 98]
```diff
@@ -0,0 +1,259 @@
...
+section IsDiscreteValuationRing
+
+variable [IsDomain R] [IsDiscreteValuationRing R]
+variable {K : Type*} [Field K] [Algebra R K] [IsFractionRing R K]
+
+lemma ordMonoidWithZeroHom_eq_intValutation {R : Type u_1} [CommRing R] [IsDomain R]
+    [IsDiscreteValuationRing R] (x : R) (h : x ∈ nonZeroDivisors R) :
+    (ordMonoidWithZeroHom R) x = ((IsDiscreteValuationRing.maximalIdeal R).intValuation x)⁻¹ := by
+  simp only [ordMonoidWithZeroHom_eq_ord h, ord_eq_addVal,
+    IsDiscreteValuationRing.intValuation_maximalIdeal, inv_inv]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]:
```suggestion
  simp [ordMonoidWithZeroHom_eq_ord h, IsDiscreteValuationRing.intValuation_maximalIdeal]
```

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 99]
```diff
@@ -0,0 +1,259 @@
...
+lemma ordFrac_eq_intValuation {R K : Type*} [CommRing R] [IsDomain R] [IsDiscreteValuationRing R]
+    [Field K] [Algebra R K] [IsFractionRing R K]
+    {x : R}
+    (h : x ≠ 0)
+    : (ordFrac R) ((algebraMap R K) x) =
+    ((IsDiscreteValuationRing.maximalIdeal R).intValuation x)⁻¹ := by
+  rw [ordFrac_eq_ord R x h,
+      ordMonoidWithZeroHom_eq_intValutation _ (mem_nonZeroDivisors_of_ne_zero h)]
+
+theorem ordFrac_eq_inverse_comp_valuation :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean:173]: I think an applied version would be more useful here.

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 100]
```diff
@@ -0,0 +1,259 @@
...
+    ordFrac R x = ((IsDiscreteValuationRing.maximalIdeal R).valuation K x)⁻¹ := by
+  simp [ordFrac_eq_inverse_comp_valuation]
+
+lemma ordFrac_irreducible
+    {ϖ : R} (hϖ : Irreducible ϖ) : ordFrac R (algebraMap R K ϖ) = WithZero.exp 1 := by
+  simp [ordFrac_eq_valuation_inv, IsDedekindDomain.HeightOneSpectrum.valuation_of_algebraMap,
+    IsDedekindDomain.HeightOneSpectrum.valuation_of_algebraMap,
+    IsDiscreteValuationRing.intValuation_maximalIdeal,
+    IsDiscreteValuationRing.addVal_uniformizer hϖ]
+  rfl
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]:
```suggestion
  simp [ordFrac_eq_valuation_inv, IsDedekindDomain.HeightOneSpectrum.valuation_of_algebraMap,
    IsDiscreteValuationRing.intValuation_maximalIdeal,
    IsDiscreteValuationRing.addVal_uniformizer hϖ, ← WithZero.exp_eq_coe_ofAdd]
```

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 101]
```diff
@@ -0,0 +1,259 @@
...
+
+open IsDedekindDomain HeightOneSpectrum
+
+/--
+The analogue of `ord_of_isUnit` for `ordFrac`, saying `ordFrac R (algebraMap R K x) = 1` for some
+unit `x`.
+-/
+lemma isUnit_iff_ordFrac_one_of_isDiscreteValuationRing (x : R) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]:
```suggestion
lemma isUnit_iff_ordFrac_one_of_isDiscreteValuationRing {x : R} :
```
If you want.

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 102]
```diff
@@ -0,0 +1,259 @@
...
+    IsUnit x ↔ ordFrac R (algebraMap R K x) = 1 := by
+  rw [ordFrac_eq_valuation_inv, inv_eq_one, valuation_eq_one_iff_notMem]
+  simp [IsDiscreteValuationRing.maximalIdeal]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]:
```suggestion
simp [ordFrac_eq_valuation_inv, IsDiscreteValuationRing.maximalIdeal]
```

File: Mathlib/RingTheory/OrderOfVanishing/Basic.lean (hunk 84 above)
Comment (Raph-DG) [reply Mathlib/RingTheory/OrderOfVanishing/Basic.lean:270]: Yeah that's true, perhaps you're right this shouldn't be a simp lemma

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean (hunk 99 above)
Comment (Raph-DG) [reply Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean:173]: I'm slightly unclear on what your suggestion is here. Note that the lemma directly below `ordFrac_eq_valuation_inv` is precisely an applied version of this lemma. I didn't give it the same name with apply on the end because some simplification of the RHS is also done when in the applied form. Is your point that I should get rid of this lemma and just have the applied version, or that I should change the names to be more similar to one another?

Comment (riccardobrasca) [reply Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean:173]: Yes, I think we can just keep the applied version. But if you need this one no worries.

Comment (riccardobrasca) [reply Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean:173]: The reason why this is a little weird is the `.toMonoidWithZeroHom`.

Comment (Raph-DG) [reply Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean:173]: That's true, it is a bit funny, I can't decide whether I want it there or not. I found the unapplied version useful when showing `mker_ordFrac_eq_isUnitSubmonoid`, and I can imagine it having similar applications elsewhere. That said, it wouldn't be too bad to prove this lemma without the unapplied version as well, so I don't have super strong feelings either way

File: Mathlib/Algebra/Algebra/Tower.lean (hunk 77 above)
Comment (Raph-DG) [reply Mathlib/Algebra/Algebra/Tower.lean:318]: Ah thanks, I didn't know about these different options for simps :)

File: Mathlib/Algebra/Group/TypeTags/Basic.lean (hunk 78 above)
Comment (Raph-DG) [reply Mathlib/Algebra/Group/TypeTags/Basic.lean]: Ah I could have sworn I deleted these lemmas! These are no longer needed since we fixed the defeq abuse in the definition of ordMonoidWithZeroHom

File: Mathlib/RingTheory/OrderOfVanishing/Basic.lean (hunk 86 above)
Comment (Raph-DG) [reply Mathlib/RingTheory/OrderOfVanishing/Basic.lean]: Ah thanks for the catch, I could have sworn I deleted this lemma too! Anyway this also shouldn't be necessary now that the `ordMonoidWithZeroHom` definition has changed

**Comment by riccardobrasca** [comment]
I requested a review by copilot. Sometimes it says nonsense, so feel free to ignore it (but it is very good in catching typos)

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean (hunk 91 above)
Comment (Raph-DG) [reply Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean:89]: Hmm, I'm wondering which file you think would be more appropriate for this. Note that this only holds for DVRs, so I think it makes more sense to be in this file than in the basic file, and I don't think it's sensible to have it in any other file

Comment (riccardobrasca) [reply Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean:89]: OK let's keep it here.

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 103]
```diff
@@ -0,0 +1,226 @@
...
+
+open IsDedekindDomain HeightOneSpectrum
+
+/--
+The analogue of `ord_of_isUnit` for `ordFrac`, saying `ordFrac R (algebraMap R K x) = 1` for some
+unit `x`.
+-/
+lemma isUnit_iff_ordFrac_one_of_isDiscreteValuationRing {x : R} :
+    IsUnit x ↔ ordFrac R (algebraMap R K x) = 1 := by
+simp [ordFrac_eq_valuation_inv, IsDiscreteValuationRing.maximalIdeal]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]:
```suggestion
  simp [ordFrac_eq_valuation_inv, IsDiscreteValuationRing.maximalIdeal]
```

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 104]
```diff
@@ -0,0 +1,226 @@
...
+lemma ordFrac_irreducible
+    {ϖ : R} (hϖ : Irreducible ϖ) : ordFrac R (algebraMap R K ϖ) = WithZero.exp 1 := by
+  simp [ordFrac_eq_valuation_inv, IsDedekindDomain.HeightOneSpectrum.valuation_of_algebraMap,
+    IsDiscreteValuationRing.intValuation_maximalIdeal,
+    IsDiscreteValuationRing.addVal_uniformizer hϖ, ← WithZero.exp_eq_coe_ofAdd]
+
+open IsDedekindDomain HeightOneSpectrum
+
+/--
+The analogue of `ord_of_isUnit` for `ordFrac`, saying `ordFrac R (algebraMap R K x) = 1` for some
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: Can you fix the docstring? The statement is an iff.

File: Mathlib/RingTheory/OrderOfVanishing/Basic.lean [hunk 105]
```diff
@@ -166,8 +294,17 @@ theorem _root_.isFiniteLength_quotient_span_singleton [IsNoetherianRing R]
...
 variable {K : Type*} [Field K] [Algebra R K] [IsFractionRing R K]
+
+variable {R} in
+lemma ord_ne_top {a : R} (ha : a ∈ nonZeroDivisors R) : ord R a ≠ ⊤ := by
+  simp [isFiniteLength_quotient_span_singleton R ha, Ring.ord, Module.length_ne_top_iff]
+
+variable {R} in
+lemma ord_lt_top {a : R} (ha : a ∈ nonZeroDivisors R) : ord R a < ⊤ := (ord_ne_top ha).lt_top
+
+variable [Nontrivial R]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Basic.lean:314]:
```suggestion
variable [Nontrivial R]

```

File: Mathlib/RingTheory/OrderOfVanishing/Basic.lean [hunk 106]
```diff
@@ -181,15 +318,16 @@ def ordFrac : K →*₀ ℤᵐ⁰ :=
     simp only [isUnit_iff_ne_zero, ne_eq]
     simp [ordMonoidWithZeroHom, ord]
     have := Module.length_ne_top_iff.mpr <| isFiniteLength_quotient_span_singleton R y.2
-    have : ∀ k,
-      (WithZero.map' (AddMonoidHom.toMultiplicative (Nat.castAddMonoidHom ℤ))) k = 0 ↔ k = 0 := by
+    have : ∀ k : ℕ∞,
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Basic.lean]: I think a slightly more readable version is
```lean
noncomputable
def ordFrac : K →*₀ ℤᵐ⁰ :=
  letI f := (toLocalizationMap (nonZeroDivisors R) K).lift₀ (ordMonoidWithZeroHom R)
  haveI : ∀ (y : ↥(nonZeroDivisors R)), IsUnit (ordMonoidWithZeroHom R ↑y) := by
    intro y
    have : ∀ k : ℕ∞,
      ENat.recTopCoe 0 (WithZero.coe <| Multiplicative.ofAdd <| Nat.cast (R := ℤ) ·) k =
          (0 : WithZero _) ↔ k = ⊤ := by
        intro k
        cases k
        all_goals simp
    simp [ordMonoidWithZeroHom, ord, this,
      Module.length_ne_top_iff.mpr <| isFiniteLength_quotient_span_singleton R y.2]
  f this
```
But an optimal version would be to extract the `haveI` as a standalone lemma.

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 107]
```diff
@@ -0,0 +1,226 @@
...
+    1 ≤ ordFrac R (algebraMap R K x) := by
+  obtain ⟨m, hm⟩ := ENat.ne_top_iff_exists.mp (ord_ne_top (a := x) (by simpa))
+  simp_rw [ordFrac_eq_ord R hx, ordMonoidWithZeroHom_eq_coe _ (by simpa) hm.symm,
+    WithZero.one_le_coe, ← ofAdd_zero, Multiplicative.ofAdd_le, Nat.cast_nonneg _]
+
+lemma ordFrac_le_smul {S : Type*} [CommRing S] [Algebra S R] [Algebra S K]
+    [IsScalarTower S R K] (a : S) (ha : algebraMap S R a ≠ 0) (f : K) :
+    Ring.ordFrac R f ≤ Ring.ordFrac R (a • f) := by
+  by_cases j : f = 0
+  · simp[j]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]:
```suggestion
  · simp [j]
```

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 108]
```diff
@@ -0,0 +1,226 @@
...
+The analogue of `ord_of_isUnit` for `ordFrac`, saying `ordFrac R (algebraMap R K x) = 1` for some
+unit `x`.
+-/
+lemma isUnit_iff_ordFrac_one_of_isDiscreteValuationRing {x : R} :
+    IsUnit x ↔ ordFrac R (algebraMap R K x) = 1 := by
+simp [ordFrac_eq_valuation_inv, IsDiscreteValuationRing.maximalIdeal]
+
+lemma mker_ordFrac_eq_isUnitSubmonoid :
+    MonoidHom.mker (ordFrac R) = (IsUnit.submonoid R).map (algebraMap R K) := by
+  rw [ordFrac_eq_inverse_comp_valuation, ←MonoidWithZeroHom.comap_mker,
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]:
```suggestion
  rw [ordFrac_eq_inverse_comp_valuation, ← MonoidWithZeroHom.comap_mker,
```
Didn't we have a linter for this?!

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 109]
```diff
@@ -0,0 +1,226 @@
...
+variable {R : Type*} [CommRing R]
+variable [IsNoetherianRing R] [Ring.KrullDimLE 1 R]
+variable {K : Type*} [Field K] [Algebra R K] [IsFractionRing R K]
+
+open scoped nonZeroDivisors
+/--
+Order of vanishing function as a monoid homomorphism
+-/
+noncomputable
+def ordMonoidHom : R⁰ →* Multiplicative ℕ where
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean:40]: All this file is still in the root namespace.

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean (hunk 108 above)
Comment (Raph-DG) [reply Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: Yeah good question, it's certainly not popping up on my machine with warnings but I also remember at some point people talking about there being a linter for this.

**Comment by riccardobrasca** [comment]
There is just one comment left, but otherwise LGTM, thanks!

bors d+

**Comment by Raph-DG** [comment]
> There is just one comment left, but otherwise LGTM, thanks!
> 
> bors d+

Awesome, just fixing that comment up now :) Thanks for all your help!

**Comment by riccardobrasca** [comment]
Don't forget to add the deprecated module in another PR!
